2105-09-18 05:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Mental status improved and pt was able to make purposeful movements
   with her face only; CT surgery notified and the CT-PA came by to
   evaluate and speak with the attending, who declined to operate this
   evening for fear of inducing hemorrhage with the heparin load for the
   heart lung machine.
   - Will call neurology in the AM for eval of hemorrhage risk during
   surgery.
   - Febrile - cultures were already sent; started on tylenol
   - UOP dropped to 5-10 mL/hr, +2.5L since admission, and serum and urine
   chemistries pending to evaluate oliguria.
 ARTERIAL LINE - START [**2105-9-17**] 05:30 PM
 FEVER - 101.8
F - [**2105-9-18**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2105-9-17**] 08:55 PM
   Infusions:
   Esmolol - 200 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2105-9-17**] 04:45 PM
   Other medications:
   Changes to medical and family history: N/C
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-9-18**] 05:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 94 (88 - 101) bpm
   BP: 117/75(90) {97/67(-15) - 149/85(106)} mmHg
   RR: 13 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,660 mL
                                                                    985 mL
   PO:
             TF:
   IVF:
                                                                  1,160 mL
                                                                    985 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                     80 mL
   Urine:
                                                                    875 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,785 mL
                                                                    905 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   SpO2: 95%
   ABG: 7.45/36/111/22/1
   Ve: 8 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General: intubated, off sedation
   HEENT: NC/AT, no scleral icterus noted, ET in place
   Neck: Supple, no carotid bruits appreciated.
   Pulmonary: Lungs CTA bilaterally anteriorly
   Cardiac: nl S1 S2, no murmur
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted.
   Extremities: 1+ pedal edema bilaterally
   Skin: no rashes or lesions noted.
   Neurologic: Withdrawing to pain, grimace to sternal rub and pain but no
   purposeful movements
   Labs / Radiology
   212 K/uL
   13.4 g/dL
   147 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.9 mEq/L
   21 mg/dL
   108 mEq/L
   137 mEq/L
   38.0 %
   16.3 K/uL
        [image002.jpg]            FENa = 0
                            [**2105-9-17**]  06:00 PM
                            [**2105-9-17**]  06:08 PM
                            [**2105-9-18**]  12:25 AM
                            [**2105-9-18**]  12:50 AM
                            [**2105-9-18**]  03:33 AM
   WBC
   16.0
   16.3
   Hct
   39.8
   38.9
   38.0
   Plt
   269
   212
   Cr
   0.5
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   25
   26
   Glucose
   161
   148
   147
   Other labs: PT / PTT / INR:12.4/27.3/1.0, CK / CKMB /
   Troponin-T:19//<0.01, ALT / AST:17/21, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:1.6 mmol/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   dissecting aortic anuerysm with history of known thoracic aneurysm.
   # Respiratory Failure: Unclear etiology.  Per report, found down, could
   have been post-ictal but wouldn't not fully explain need for
   intubation.  ED reports "significant respiratory distress" but no
   hypoxemia recorded.  Could also have had aspiration event.  Dissection
   could result in tamponade, but no evidence of this at this point.  A-a
   gradient 153 (20 normal for age) indicative of impaired defusion or V-Q
   mismatching.
   - Wean propofol, to assess improved AMS (CT surgery wants 4 extremities
   moving and that she can understand)
   - Wean vent as able
   - Chlorhexadine
   - RSBI daily with SBT as able
   # Aortic Dissection: Etiology likely rupture of known aneurysm vs
   traumatic [**1-3**] failed intubation.  Could also be exacerbated by new CVA
   with resultant HTN causing extension of tear.  CT Surgery consulted in
   ED but hesistant to take to OR given AMS and concern for poor outcome.
   Additionally, would likely anticoagulate for surgery and could result
   in hemorrhagic conversion of small CVAs.
   - Continue Esmolol gtt, goal SBP 120 per CT Surgery
   - Q2H Neuro checks as able
   - Neurology and CT surgery teams have both evaluated patient
   decisions must be made as to course of action today.
   # AMS: Likely secondary to dissection. ?CVA on MR [**First Name (Titles) **] [**Last Name (Titles) 5**], negative CT
   at [**Location (un) 196**].  Brain MRI shows multiple b/l acute-subacute deep
   hemispheric infarcts in different vasacular territories, likely
   secondary to the dissection. Looks embolic.  Per Neuro consult,
   alternative causes could include seizures and a post-ictal state or
   non-convulsive status. These causes also seem less likely as she has a
   history of focal motor seizures without any history of generalized
   events per her husband.  [**Name (NI) 6**] been on propofol on and off all day, so
   likely etiology of AMS.
   - Per Neuro: should stop propofol, and goal to extubate, continue ASA,
   don't start heparin
   - Follow-up brain MRI
   - EEG
 report pending, though preliminary read is not status
   epilepticus.
   - Continue Neurontin
   - LP attempt for the morning
   - Follow-up Neuro recs: reassess neurologic status this morning, hold
   AEDs, cont. neurontin.
   - Treat UTI
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Esmolol gtt for tighter control, goal SBP 120-130
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - Check TSH as possible, though unlikely, etiology of AMS
   - po Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Diltiazem and ASA.  Not on
   Metoprolol and Lisinopril so unclear severity of underlying disease.
   -          Hold ASA given possible surgery
   # UTI: Noted on UA at [**Location (un) 196**].  No report in records.  Also with
   leukocytosis which could be reactive vs infectious etiology.
   -          Cipro 200mg IV BID x 3 days
   -          Follow-up [**Location (un) 196**] labs / microbiology
   F: Give IV x 1L given NPO for prolonged period & approx 30cc/hr uop
   E: Replete K
   N: NPO for potential surgery, NGT in place
   Access: 3 PIV (placed [**2105-9-17**])
   Prophylaxis: SCDs, Lansoprazole, bowel regimen PRN
   CODE: Presumed Full (per discussion with husband, patient did
   previously sign a DNR/DNI, but husband would like her to be involved in
   the decision to go to surgery or not).
   Communication: [**Name (NI) 67**], husband and HCP, [**Telephone/Fax (1) 1833**] or [**Telephone/Fax (1) 1834**]

2105-09-18 09:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2105-9-17**] 04:30 PM
 ARTERIAL LINE - START [**2105-9-17**] 05:30 PM
 FEVER - 101.8
F - [**2105-9-18**] 04:00 AM
   Remains intubated, mechanically ventilated.
   Sedation d/c'd overnight.
   Gradual awakening overnight, now moving purposeful movements with
   arms/legs to command.  Attempting to communicate with verbal means (ETT
   in place).
   Decreased urine output overnight.
                                       History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2105-9-17**] 08:55 PM
   Ceftriaxone - [**2105-9-18**] 06:26 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2105-9-17**] 04:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2105-9-18**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 95 (88 - 101) bpm
   BP: 102/67(80) {97/67(-15) - 149/85(106)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,660 mL
                                                                  1,237 mL
   PO:
             TF:
   IVF:
                                                                  1,160 mL
                                                                  1,237 mL
   Blood products:
   Total out:
                                                                    875 mL
                                                                     87 mL
   Urine:
                                                                    875 mL
                                                                     87 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,785 mL
                                                                  1,150 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 454 (454 - 454) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 95%
   ABG: 7.45/36/111/22/1
   Ve: 9.5 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   13.4 g/dL
   212 K/uL
   147 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.9 mEq/L
   21 mg/dL
   108 mEq/L
   137 mEq/L
   38.0 %
   16.3 K/uL
        [image002.jpg]
                            [**2105-9-17**]  06:00 PM
                            [**2105-9-17**]  06:08 PM
                            [**2105-9-18**]  12:25 AM
                            [**2105-9-18**]  12:50 AM
                            [**2105-9-18**]  03:33 AM
   WBC
   16.0
   16.3
   Hct
   39.8
   38.9
   38.0
   Plt
   269
   212
   Cr
   0.5
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   25
   26
   Glucose
   161
   148
   147
   Other labs: PT / PTT / INR:12.4/27.3/1.0, CK / CKMB /
   Troponin-T:19//<0.01, ALT / AST:17/21, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:1.6 mmol/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Acute stroke syndrome, thoracic aortic aneurysm dissection (Type I).
   RESPIRATORY FAILURE -- intubated for airway protection.  Radiograph
   suggests LLL infiltrate, possible pneumonia --> antibiotics.
   CVA -- acute stroke (lacunes) may be related to aortic dissection.
   ALTERED MENTAL STATUS/UNRESPONSIVENESS -- may be related to stroke
   syndrome, and medications (sedatives).  Now improved since d/c'd
   propofol.  Continue to monitor.
   THORACIC ANEURYSM (AORTIC) -- Type I dissection.  Continue to control
   BP (SBP <120).  Await improvement in neurological status prior to
   proceeding to surgery.  Await decision for surgery.
   BACK PAIN -- chronic.  Pain control as per usual meds.
   NUTRITIONAL SUPPORT -- NPO pending evaluation, as pt. may be pre-op.
   HYPERTENSION -- management with iv esmolol.
   DIABETES MELLITUS -- manage blood glucose <150.
   OLIGURIA -- prerenal and possible influence of radiologic contast
   (ATN).  At risk for dissection distal to initial site --> renal
   arteries at risk.  Plan iv repletetion.  Monitor UO, BUN, creatinine
   FLUIDS -- hypovolemic.  Replete.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2105-9-17**] 04:30 PM
   18 Gauge - [**2105-9-17**] 04:30 PM
   20 Gauge - [**2105-9-17**] 04:58 PM
   Arterial Line - [**2105-9-17**] 05:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2105-09-19 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2105-9-18**] 08:30 AM
 TRANSTHORACIC ECHO - At [**2105-9-18**] 09:47 AM
   -Extubated 3 pm
   -MRI: Multifocal acute infarcts, likley central embolic
   - UOP  >30 cc/hour
   -Dissection to noncoronary cusps of aortic valve
   -CPAP at night for OSA
   -PICC placed but extended across chest so pulled back-> not PICC,
   peripheral
   -On Esmolol, Nicardipine for BP control
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2105-9-17**] 08:55 PM
   Ceftriaxone - [**2105-9-18**] 06:26 AM
   Infusions:
   Nicardipine - 1 mcg/Kg/min
   Esmolol - 250 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-9-19**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.4
   HR: 83 (78 - 98) bpm
   BP: 121/73(92) {102/66(83) - 144/131(136)} mmHg
   RR: 25 (13 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  6,204 mL
                                                                  1,041 mL
   PO:
             TF:
   IVF:
                                                                  6,104 mL
                                                                  1,041 mL
   Blood products:
   Total out:
                                                                    977 mL
                                                                    295 mL
   Urine:
                                                                    827 mL
                                                                    295 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  5,227 mL
                                                                    746 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 538 (454 - 538) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: 7.42/33/105/21/-1
   Ve: 9.2 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General: intubated, off sedation
   HEENT: NC/AT, no scleral icterus noted, ET in place
   Neck: Supple, no carotid bruits appreciated.
   Pulmonary: Lungs CTA bilaterally anteriorly
   Cardiac: nl S1 S2, no murmur
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted.
   Extremities: 1+ pedal edema bilaterally
   Skin: no rashes or lesions noted.
   Neurologic: Withdrawing to pain, grimace to sternal rub and pain but no
   purposeful movements
   Labs / Radiology
   87 K/uL
   11.5 g/dL
   116 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.9 mEq/L
   22 mg/dL
   112 mEq/L
   140 mEq/L
   33.7 %
   16.4 K/uL
        [image002.jpg]
                            [**2105-9-17**]  06:00 PM
                            [**2105-9-17**]  06:08 PM
                            [**2105-9-18**]  12:25 AM
                            [**2105-9-18**]  12:50 AM
                            [**2105-9-18**]  03:33 AM
                            [**2105-9-18**]  11:57 AM
                            [**2105-9-18**]  04:12 PM
                            [**2105-9-19**]  03:32 AM
   WBC
   16.0
   16.3
   16.4
   Hct
   39.8
   38.9
   38.0
   33.7
   Plt
   269
   212
   87
   Cr
   0.5
   0.6
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   25
   26
   23
   22
   Glucose
   161
   148
   147
   116
   Other labs: PT / PTT / INR:13.1/24.6/1.1, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:16/18, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:1.5 mmol/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   dissecting aortic anuerysm with history of known thoracic aneurysm.
   # Respiratory Failure: Unclear etiology.  Per report, found down, could
   have been post-ictal but wouldn't not fully explain need for
   intubation.  ED reports "significant respiratory distress" but no
   hypoxemia recorded.  Could also have had aspiration event.  Dissection
   could result in tamponade, but no evidence of this at this point.  A-a
   gradient 153 (20 normal for age) indicative of impaired defusion or V-Q
   mismatching.
   - Wean propofol, to assess improved AMS (CT surgery wants 4 extremities
   moving and that she can understand)
   - Wean vent as able
   - Chlorhexadine
   - RSBI daily with SBT as able
   # Aortic Dissection: Etiology likely rupture of known aneurysm vs
   traumatic [**1-3**] failed intubation.  Could also be exacerbated by new CVA
   with resultant HTN causing extension of tear.  CT Surgery consulted in
   ED but hesistant to take to OR given AMS and concern for poor outcome.
   Additionally, would likely anticoagulate for surgery and could result
   in hemorrhagic conversion of small CVAs.
   - Continue Esmolol gtt, goal SBP 120 per CT Surgery
   - Q2H Neuro checks as able
   - Neurology and CT surgery teams have both evaluated patient
   decisions must be made as to course of action today.
   # AMS: Likely secondary to dissection. ?CVA on MR [**First Name (Titles) **] [**Last Name (Titles) 5**], negative CT
   at [**Location (un) 196**].  Brain MRI shows multiple b/l acute-subacute deep
   hemispheric infarcts in different vasacular territories, likely
   secondary to the dissection. Looks embolic.  Per Neuro consult,
   alternative causes could include seizures and a post-ictal state or
   non-convulsive status. These causes also seem less likely as she has a
   history of focal motor seizures without any history of generalized
   events per her husband.  [**Name (NI) 6**] been on propofol on and off all day, so
   likely etiology of AMS.
   - Per Neuro: should stop propofol, and goal to extubate, continue ASA,
   don't start heparin
   - Follow-up brain MRI
   - EEG
 report pending, though preliminary read is not status
   epilepticus.
   - Continue Neurontin
   - LP attempt for the morning
   - Follow-up Neuro recs: reassess neurologic status this morning, hold
   AEDs, cont. neurontin.
   - Treat UTI
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Esmolol gtt for tighter control, goal SBP 120-130
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - Check TSH as possible, though unlikely, etiology of AMS
   - po Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Diltiazem and ASA.  Not on
   Metoprolol and Lisinopril so unclear severity of underlying disease.
   -          Hold ASA given possible surgery
   # UTI: Noted on UA at [**Location (un) 196**].  No report in records.  Also with
   leukocytosis which could be reactive vs infectious etiology.
   -          Cipro 200mg IV BID x 3 days
   -          Follow-up [**Location (un) 196**] labs / microbiology
   F: Give IV x 1L given NPO for prolonged period & approx 30cc/hr uop
   E: Replete K
   N: NPO for potential surgery, NGT in place
   Access: 3 PIV (placed [**2105-9-17**])
   Prophylaxis: SCDs, Lansoprazole, bowel regimen PRN
   CODE: Presumed Full (per discussion with husband, patient did
   previously sign a DNR/DNI, but husband would like her to be involved in
   the decision to go to surgery or not).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-9-17**] 04:58 PM
   Arterial Line - [**2105-9-17**] 05:30 PM
   PICC Line - [**2105-9-18**] 06:05 PM
   18 Gauge - [**2105-9-18**] 08:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-09-20 05:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Diuresed, K repleted
   BP kept <120 on Esmolol and Nicardipine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2105-9-17**] 08:55 PM
   Ceftriaxone - [**2105-9-19**] 06:00 AM
   Infusions:
   Nicardipine - 3 mcg/Kg/min
   Esmolol - 200 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-9-19**] 06:07 AM
   Furosemide (Lasix) - [**2105-9-20**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-9-20**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 78 (78 - 90) bpm
   BP: 112/59(76) {106/57(73) - 148/80(104)} mmHg
   RR: 29 (17 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  3,592 mL
                                                                    749 mL
   PO:
             TF:
   IVF:
                                                                  3,592 mL
                                                                    749 mL
   Blood products:
   Total out:
                                                                  2,560 mL
                                                                    260 mL
   Urine:
                                                                  2,560 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,032 mL
                                                                    489 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.47/29/69/21/0
   Physical Examination
   General: Extubated, awakens to voice, tracks with eyes, inconsistently
   following commands, on nasal CPAP
   HEENT: NC/AT, no scleral icterus noted
   Neck: Supple, no carotid bruits appreciated.
   Pulmonary: Lungs CTA bilaterally anteriorly with asymmetric expansion,
   decreased on R c/w L
   Cardiac: nl S1 S2, no m/r/g
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted.
   Extremities: 1+ pedal edema bilaterally UE and LE
   Skin: no rashes or lesions noted.
   Neurologic: Moving all extremities except RUE, withdraws to pain
   Labs / Radiology
   217 K/uL
   11.3 g/dL
   112 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.1 mEq/L
   23 mg/dL
   113 mEq/L
   143 mEq/L
   31.4 %
   17.2 K/uL
        [image002.jpg]
                            [**2105-9-18**]  03:33 AM
                            [**2105-9-18**]  11:57 AM
                            [**2105-9-18**]  04:12 PM
                            [**2105-9-19**]  03:32 AM
                            [**2105-9-19**]  07:27 AM
                            [**2105-9-19**]  11:51 AM
                            [**2105-9-19**]  11:57 AM
                            [**2105-9-19**]  05:49 PM
                            [**2105-9-19**]  11:30 PM
                            [**2105-9-20**]  03:44 AM
   WBC
   16.3
   16.4
   17.2
   Hct
   38.0
   33.7
   31.4
   Plt
   [**Telephone/Fax (2) 1928**]7
   Cr
   0.6
   0.6
   0.6
   TropT
   <0.01
   TCO2
   23
   22
   22
   22
   22
   22
   Glucose
   147
   116
   112
   Other labs: PT / PTT / INR:13.1/24.6/1.1, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:16/18, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:1.0 mmol/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   dissecting aortic anuerysm with history of known thoracic aneurysm.
   # Respiratory Failure: Now Extubated. Maintaining pH, O2 sats. Has
   asymmetric chest expansion and CXR c/w possible R lobar collapse. Will
   need to maintain NPO status to avoid further aspiration events.
   - NT suctioning to try to inflate lung, remove mucus plug. Would like
   to avoid procedures that require sedation such as bronch since may
   cloud mental status eval
   - NPO for now
   - For aspiration, would continue CTX and add flagyl if spikes
   # Aortic Dissection: Etiology likely rupture of known aneurysm vs
   traumatic [**1-3**] failed intubation.  CT Surgery consulted in ED but
   hesistant to take to OR given AMS and concern for poor outcome.
   Additionally, would likely anticoagulate for surgery and could result
   in hemorrhagic conversion of small CVAs. CT [**Doctor First Name 91**] following, will
   reassess plans for surgery and d/w Neurology
   - Continue Esmolol gtt, Nicardipine gtt, goal SBP 120 per CT Surgery.
   Will need to [**Last Name (un) 1919**] into what med would be added on since now maxed out on
   current meds
   - Q2H Neuro checks as able
   - Neurology and CT surgery teams have both evaluated patient
   decisions must be made as to course of action as pt reassessed on daily
   basis
   - F/U CT [**Doctor First Name 91**] recs
   # AMS: Likely secondary to dissection and multifocal infarcts likely
   embolic.  Per Neuro consult, alternative causes could include seizures
   and a post-ictal state or non-convulsive status. EEG was negative.
   Extubated so more clearly able to assess mental status. Will follow
   erial neuro exams,
   - Continue Neurontin
   - Follow-up Neuro recs: reassess neurologic status this morning, hold
   AEDs, cont. neurontin.
   - Treat UTI
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Esmolol gtt, Nicardipine gtt as above for tighter
   control, goal SBP less than 120
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - Check TSH as possible
   - po Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Diltiazem and ASA.  Not on
   Metoprolol and Lisinopril so unclear severity of underlying disease.
   # UTI: Noted on UA at [**Location (un) 196**].  No report in records.  Also with
   leukocytosis which could be reactive vs infectious etiology.
   -          Cipro changed to Cefrtriaxone per neuro recs, day [**2-2**] but
   will continue given aspiration
   -          Follow-up [**Location (un) 196**] labs / microbiology
   F: Bolus prn < 30cc/hr uop. Had good UOP yesterday
   E: Replete lytes prn
   N: NPO given aspiration risk
   Access: 3 PIV (placed [**2105-9-17**])
   Prophylaxis: SCDs, Lansoprazole, bowel regimen PRN
   CODE: Presumed Full (per discussion with husband, patient did
   previously sign a DNR/DNI, but husband would like her to be involved in
   the decision to go to surgery or not).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-9-17**] 05:30 PM
   PICC Line - [**2105-9-18**] 06:05 PM
   18 Gauge - [**2105-9-18**] 08:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-09-21 05:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Increasing O2 demands, now on NRB mask with a sat of 95%
   - CT surgery: spoke with Dr. [**First Name (STitle) **] about CT surgery recommendations,
   who said that she would not be a surgical candidate with her current
   mental status.  If her mental status improved, the CT surgery service
   would re-evaluate.
   - Neuro: obtain MRI and page Dr. [**Last Name (STitle) 1948**] tomorrow to be present at
   family meeting.
   - Dobhoff placed, post-placement CXR obtained, appropriately placed and
   TF started per nutrition recs.
   - Follow up MRI read.
   - Cultures - no growth to date
   - Family Discussion: via discussion with husband, pt is DNR/DNI, but
   continued discussion with family would be helpful.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-9-20**] 06:00 AM
   Infusions:
   Nicardipine - 5 mcg/Kg/min
   Esmolol
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-9-20**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-9-21**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 83 (76 - 97) bpm
   BP: 117/54(69) {93/52(67) - 123/75(85)} mmHg
   RR: 27 (19 - 35) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  4,118 mL
                                                                    859 mL
   PO:
             TF:
             65 mL
   IVF:
                                                                  4,118 mL
                                                                    794 mL
   Blood products:
   Total out:
                                                                  2,405 mL
                                                                    360 mL
   Urine:
                                                                  2,405 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,713 mL
                                                                    499 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 89%
   ABG: 7.46/32/106//0
   PaO2 / FiO2: 106
   Physical Examination
   GEN:  Pt. has a NRB mask, lying down in respiratory distress.
   HEENT:  NC/AT, using accessory muscles to breath, through her mouth.
   CV:  RRR, nl S1 and S2 without murmur
 though limited exam due to
   upper airway sounds.
   PULM: In respiratory distress, with paradoxical chest/abd movements
   with inspiration.
   ABD:  Soft, ND, seemingly NT, BS+
   EXT:  She no longer moves her extremities, withdrawal from pain or
   otherwise.  [**12-3**]+ extremity edema of both upper and lower limbs.
   Skin: no rashes or lesions noted.
   Neurologic: No  withdrawing to pain, no purposeful movements.
   Labs / Radiology
   217 K/uL
   11.3 g/dL
   112 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.1 mEq/L
   23 mg/dL
   113 mEq/L
   143 mEq/L
   31.4 %
   17.2 K/uL
        [image002.jpg]
                            [**2105-9-19**]  03:32 AM
                            [**2105-9-19**]  07:27 AM
                            [**2105-9-19**]  11:51 AM
                            [**2105-9-19**]  11:57 AM
                            [**2105-9-19**]  05:49 PM
                            [**2105-9-19**]  11:30 PM
                            [**2105-9-20**]  03:44 AM
                            [**2105-9-20**]  06:38 AM
                            [**2105-9-20**]  08:55 AM
                            [**2105-9-20**]  05:05 PM
   WBC
   16.4
   17.2
   Hct
   33.7
   31.4
   Plt
   87
   193
   217
   Cr
   0.6
   0.6
   TCO2
   22
   22
   22
   22
   22
   22
   23
   Glucose
   116
   112
   Other labs: PT / PTT / INR:13.1/24.6/1.1, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:16/18, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:0.9 mmol/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   dissecting aortic aneurysm with history of known thoracic aneurysm.
   # Respiratory Failure: Now Extubated. Maintaining pH, O2 sats. Has
   asymmetric chest expansion and CXR c/w possible R lobar collapse. Will
   need to maintain NPO status to avoid further aspiration events.
   - NT suctioning to try to inflate lung, remove mucus plug.
   - Continuing CTX for aspiration concerns.
   - To meet with family in the afternoon with Neurology and MICU
   attending in order to further discuss current status and goals of care.
   # Aortic Dissection: Etiology likely rupture of known aneurysm vs
   traumatic [**1-3**] failed intubation.  CT Surgery consulted in ED but
   hesitant to take to OR given AMS and concern for poor outcome.
   Additionally, would likely anti-coagulate for surgery and could result
   in hemorrhagic conversion of small CVAs. CT [**Doctor First Name 91**] following, will
   reassess plans for surgery and d/w Neurology
   - Dr. [**First Name (STitle) **] on CT Surgery said that pt was not an operative candidate
   given her current mental status, and if her mental status were to
   improve, CT surgical service would re-evaluate.
   - Continue Esmolol gtt, Nicardipine gtt, with a goal of SBP 120. Will
   need to look into what med would be added on since now maxed out on
   current meds.
   - Q4H Neuro checks as able
   # AMS: Likely secondary to dissection and multifocal infarcts likely
   embolic.  Per Neuro consult, alternative causes could include seizures
   and a postictal state or non-convulsive status. EEG was negative.
   Extubated so more clearly able to assess mental status. Will follow
   serial neuro exams,
   - Follow-up Neuro recs: reassess neurologic status this morning, hold
   AEDs, cont. neurontin.
   - Hold sedation unless family decides to redirect goals of care.
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Esmolol gtt, Nicardipine gtt as above for tighter
   control, goal SBP less than 120
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - Check TSH as possible
   - po Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Diltiazem and ASA.  Not on
   Metoprolol and Lisinopril so unclear severity of underlying disease.
   # UTI: Noted on UA at [**Location (un) 196**].  No report in records.  Also with
   leukocytosis which could be reactive vs infectious etiology.
   - Completed course of Cefrtriaxone for UTI, but continued in the
   setting of aspiration
   - Follow-up [**Location (un) 196**] labs / microbiology
   F: Administered lasix and will monitor UOP.
   E: Replete lytes prn
   N: Cont. tubefeeds via Dobhoff tube per nutrition recs.
   Access:  A line and 18 gauge are functional.  Central line will be
   d/c
d and replaced.
   Prophylaxis: SCDs, Lansoprazole, bowel regimen PRN
   CODE: DNR/DNI with the intention of continuing conversation with her
   husband regarding the goals of care.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-9-21**] 01:00 AM 15 mL/hour
   Lines:
   Arterial Line - [**2105-9-17**] 05:30 PM
   PICC Line - [**2105-9-18**] 06:05 PM

2105-09-21 10:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2105-9-20**] 06:00 PM
   Although some initial improvement in mental status, progressive decline
   over weekend.
   Remains extubated, but increasing oxygen requirements, esp. over past
   12 hours.
   BP control now requiring esmolol and nicardipine in comibination.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-9-20**] 06:00 AM
   Infusions:
   Nicardipine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2105-9-21**] 10:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 82 (76 - 92) bpm
   BP: 127/69(90) {96/57(77) - 136/86(101)} mmHg
   RR: 30 (21 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  4,118 mL
                                                                  1,995 mL
   PO:
             TF:
             158 mL
   IVF:
                                                                  4,118 mL
                                                                  1,836 mL
   Blood products:
   Total out:
                                                                  2,405 mL
                                                                    585 mL
   Urine:
                                                                  2,405 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,713 mL
                                                                  1,410 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 94%
   ABG: 7.46/32/106/21/0
   PaO2 / FiO2: 106
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Decreased, Not responding to pain
   Labs / Radiology
   11.7 g/dL
   281 K/uL
   110 mg/dL
   0.6 mg/dL
   21 mEq/L
   2.7 mEq/L
   22 mg/dL
   114 mEq/L
   144 mEq/L
   33.1 %
   18.0 K/uL
        [image002.jpg]
                            [**2105-9-19**]  07:27 AM
                            [**2105-9-19**]  11:51 AM
                            [**2105-9-19**]  11:57 AM
                            [**2105-9-19**]  05:49 PM
                            [**2105-9-19**]  11:30 PM
                            [**2105-9-20**]  03:44 AM
                            [**2105-9-20**]  06:38 AM
                            [**2105-9-20**]  08:55 AM
                            [**2105-9-20**]  05:05 PM
                            [**2105-9-21**]  04:32 AM
   WBC
   17.2
   18.0
   Hct
   31.4
   33.1
   Plt
   193
   217
   281
   Cr
   0.6
   0.6
   TCO2
   22
   22
   22
   22
   22
   22
   23
   Glucose
   112
   110
   Other labs: PT / PTT / INR:13.1/24.6/1.1, CK / CKMB /
   Troponin-T:16//<0.01, ALT / AST:16/18, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:0.9 mmol/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   RESPIRATORY INSUFFICIENCY -- Poor progression since extubation. CXR
   appears as volume overload.  Currently with paradoxical
   thoraco-abdominal motion and agonal breathing pattern.  Appears
   uncomfortable.  Maximal supplimental O2.  Would check ABG, and consider
   focus on pt comfort.
   s/p CVA, acute -- multiple strokes.  No significant neurological
   improvement.  As per discussion with family and Neurology service, will
   proceed with repeat EEG, then repeat head MRI (also consider MRA), and
   perform LP.  Hope to perform EEG off sedatives.  Will  need intubation
   for head MRI and LP attempt (will need LP in Fluorscopy with recent
   lumbar spine surgeries).
   THORACIC ANEURYSM DISSECTION -- type I; not surgical candidate due to
   poor neurological status.
   HYPERTENSION -- good control on esmolol and nicardipine.
   FLUIDS -- volume overlaod.  Plan net diuresis.
   NUTRITIONAL SUPPORT -- TF.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-9-21**] 01:00 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-9-17**] 05:30 PM
   PICC Line - [**2105-9-18**] 06:05 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Extensive discussion with husband during
   family meeting.  Updated medical condition and answered all questions.
   Code status: Full Code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2105-09-22 05:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2105-9-21**] 04:45 PM
 MAGNETIC RESONANCE IMAGING - At [**2105-9-21**] 09:00 PM
   returned back at 22 45 hrs.
   Family Meeting-> Intubate for repeat MRI/MRA, IR guided LP, now full
   code
   Intubated
   CXR with linear density, ? air but location not c/w PTX. Will follow in
   am labs
   7.42/36/138 on 100%. Decreased FiO2
   Had MRI/MRA
   Lasix 20 in pm for inadequate UOP
   Off esmolol/nicardipine, on Propofol
   Free water flushes increased
   4am: Afib with RVR to 150s. BP stable. Given Metoprolol 5 IV x 2 with
   no effect. Given Dilt 10 IV x 1 with conversion, HR 90s. Ordered echo,
   CXR, CEs, started Dilt drip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-9-22**] 05:12 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2105-9-21**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-9-22**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 92 (75 - 173) bpm
   BP: 116/67(83) {73/52(63) - 136/99(103)} mmHg
   RR: 23 (17 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  3,714 mL
                                                                    620 mL
   PO:
             TF:
                                                                    313 mL
                                                                     32 mL
   IVF:
                                                                  3,282 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                  2,430 mL
   Urine:
                                                                  2,120 mL
                                                                  2,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,594 mL
                                                                 -1,810 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 130
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 32.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.48/34/78.[**Numeric Identifier 7**]/24/2
   Ve: 10.1 L/min
   PaO2 / FiO2: 132
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   311 K/uL
   11.4 g/dL
   101 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.2 mEq/L
   18 mg/dL
   116 mEq/L
   148 mEq/L
   32.8 %
   13.9 K/uL
        [image002.jpg]
                            [**2105-9-20**]  03:44 AM
                            [**2105-9-20**]  06:38 AM
                            [**2105-9-20**]  08:55 AM
                            [**2105-9-20**]  05:05 PM
                            [**2105-9-21**]  04:32 AM
                            [**2105-9-21**]  10:22 AM
                            [**2105-9-21**]  06:02 PM
                            [**2105-9-21**]  06:08 PM
                            [**2105-9-22**]  12:14 AM
                            [**2105-9-22**]  03:01 AM
   WBC
   17.2
   18.0
   13.9
   Hct
   31.4
   33.1
   32.8
   Plt
   [**Telephone/Fax (3) 1971**]
   Cr
   0.6
   0.6
   0.6
   0.5
   TropT
   <0.01
   TCO2
   22
   22
   23
   24
   24
   26
   Glucose
   112
   110
   108
   100
   101
   Other labs: PT / PTT / INR:13.1/24.6/1.1, CK / CKMB /
   Troponin-T:[**7-4**]/<0.01, ALT / AST:16/18, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:1.0 mmol/L, Ca++:8.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   dissecting aortic aneurysm with history of known thoracic aneurysm.
   # Respiratory Failure: Now Extubated. Maintaining pH, O2 sats. Has
   asymmetric chest expansion and CXR c/w possible R lobar collapse. Will
   need to maintain NPO status to avoid further aspiration events.
   - NT suctioning to try to inflate lung, remove mucus plug.
   - Continuing CTX for aspiration concerns.
   - To meet with family in the afternoon with Neurology and MICU
   attending in order to further discuss current status and goals of care.
   # Aortic Dissection: Etiology likely rupture of known aneurysm vs
   traumatic [**1-3**] failed intubation.  CT Surgery consulted in ED but
   hesitant to take to OR given AMS and concern for poor outcome.
   Additionally, would likely anti-coagulate for surgery and could result
   in hemorrhagic conversion of small CVAs. CT [**Doctor First Name 91**] following, will
   reassess plans for surgery and d/w Neurology
   - Dr. [**First Name (STitle) **] on CT Surgery said that pt was not an operative candidate
   given her current mental status, and if her mental status were to
   improve, CT surgical service would re-evaluate.
   - Continue Esmolol gtt, Nicardipine gtt, with a goal of SBP 120. Will
   need to look into what med would be added on since now maxed out on
   current meds.
   - Q4H Neuro checks as able
   # AMS: Likely secondary to dissection and multifocal infarcts likely
   embolic.  Per Neuro consult, alternative causes could include seizures
   and a postictal state or non-convulsive status. EEG was negative.
   Extubated so more clearly able to assess mental status. Will follow
   serial neuro exams,
   - Follow-up Neuro recs: reassess neurologic status this morning, hold
   AEDs, cont. neurontin.
   - Hold sedation unless family decides to redirect goals of care.
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Esmolol gtt, Nicardipine gtt as above for tighter
   control, goal SBP less than 120
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - Check TSH as possible
   - po Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Diltiazem and ASA.  Not on
   Metoprolol and Lisinopril so unclear severity of underlying disease.
   # UTI: Noted on UA at [**Location (un) 196**].  No report in records.  Also with
   leukocytosis which could be reactive vs infectious etiology.
   - Completed course of Cefrtriaxone for UTI, but continued in the
   setting of aspiration
   - Follow-up [**Location (un) 196**] labs / microbiology
   F: Administered lasix and will monitor UOP.
   E: Replete lytes prn
   N: Cont. tubefeeds via Dobhoff tube per nutrition recs.
   Access:  A line and 18 gauge are functional.  Central line will be
   d/c
d and replaced.
   Prophylaxis: SCDs, Lansoprazole, bowel regimen PRN
   CODE: DNR/DNI with the intention of continuing conversation with her
   husband regarding the goals of care.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-9-22**] 03:30 AM 15 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-9-17**] 05:30 PM
   PICC Line - [**2105-9-18**] 06:05 PM
   18 Gauge - [**2105-9-21**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-09-22 11:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2105-9-21**] 04:45 PM
 MAGNETIC RESONANCE IMAGING - At [**2105-9-21**] 09:00 PM
   returned back at 22 45 hrs.
 EKG - At [**2105-9-22**] 03:45 AM
   Intubated yesterday afternoon for poor mental status.  Remains
   intubated, mechanically ventilated.
   EEG and head MRI performed.
   Experienced new A-Fib with RVR this AM no hypotension --> required iv
   diltiazem drip.
   Remains off esmolol and nicardipine, with adequeate BP control, on
   sedation alone.
   Sedated with propofol.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-9-22**] 05:12 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2105-9-21**] 11:15 PM
   Diltiazem - [**2105-9-22**] 10:16 AM
   Metoprolol - [**2105-9-22**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2105-9-22**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 109 (75 - 173) bpm
   BP: 116/72(86) {73/52(63) - 133/99(103)} mmHg
   RR: 23 (17 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                  3,714 mL
                                                                  1,106 mL
   PO:
             TF:
                                                                    313 mL
                                                                     79 mL
   IVF:
                                                                  3,282 mL
                                                                    407 mL
   Blood products:
   Total out:
                                                                  2,120 mL
                                                                  3,145 mL
   Urine:
                                                                  2,120 mL
                                                                  3,145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,594 mL
                                                                 -2,039 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 130
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   Compliance: 28 cmH2O/mL
   SpO2: 95%
   ABG: 7.51/33/104/24/4
   Ve: 11.1 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.4 g/dL
   311 K/uL
   101 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.4 mEq/L
   18 mg/dL
   116 mEq/L
   148 mEq/L
   32.8 %
   13.9 K/uL
         [image002.jpg]
                            [**2105-9-20**]  06:38 AM
                            [**2105-9-20**]  08:55 AM
                            [**2105-9-20**]  05:05 PM
                            [**2105-9-21**]  04:32 AM
                            [**2105-9-21**]  10:22 AM
                            [**2105-9-21**]  06:02 PM
                            [**2105-9-21**]  06:08 PM
                            [**2105-9-22**]  12:14 AM
                            [**2105-9-22**]  03:01 AM
                            [**2105-9-22**]  06:55 AM
   WBC
   18.0
   13.9
   Hct
   33.1
   32.8
   Plt
   281
   311
   Cr
   0.6
   0.6
   0.5
   TropT
   <0.01
   TCO2
   22
   22
   23
   24
   24
   26
   27
   Glucose
   110
   108
   100
   101
   Other labs: PT / PTT / INR:13.1/24.6/1.1, CK / CKMB /
   Troponin-T:[**7-4**]/<0.01, ALT / AST:16/18, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:1.0 mmol/L, Ca++:8.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Somnulance.
   RESPIRATORY FAILURE -- intubated predominately for airway protection.
   Continue mechanical ventilation.   Monitor ABG.
   FLUIDS -- desire net negative fliud balance.  Monitor I/O.
   A-FIB -- new diagnosis; rate control with Diltizem.  [**Month (only) 8**] be influenced
   by dissection
 Cardiac Echo to assess fxn and evidence for effusion.
   AORTIC DISSECTION -- Type I.  Continue BP control.  Transition to PO
   regimen.  Surgical repair on hold pending neurological evaluation.
   SOMNULANCE -- unclear etiology.  Neurological evaluation in progress
   (await EEG repeat head MRI report).  For LP as per Neuro (may require
   fluoroscopy guidance in setting of lumbar surgery).  Neurology to F/U.
   HYPERNATREMIA -- replace free water
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-9-17**] 05:30 PM
   PICC Line - [**2105-9-18**] 06:05 PM
   18 Gauge - [**2105-9-21**] 05:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2105-09-23 05:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt underwent LP
   Given K-Phos in D5W
   Tm 100.6, BCx, UCx, Sputum, CSF sent
   Placed on Metoprolol 12.5mg TID, off Diltiazem drip since 11pm
   Nystatin Cream given
   Neuro Recs: If surgery planned would be low risk hemorrhagic conversion
   if heparinized. If surgery postponed more than 1 week, would consider
   low dose ASA
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-9-22**] 05:12 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2105-9-22**] 10:16 AM
   Metoprolol - [**2105-9-22**] 01:39 PM
   Morphine Sulfate - [**2105-9-22**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-9-23**] 05:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.7
C (98.1
   HR: 82 (75 - 137) bpm
   BP: 121/55(75) {103/55(75) - 141/77(94)} mmHg
   RR: 25 (13 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,449 mL
                                                                    541 mL
   PO:
             TF:
                                                                    195 mL
                                                                     94 mL
   IVF:
                                                                  1,123 mL
                                                                    187 mL
   Blood products:
   Total out:
                                                                  3,800 mL
                                                                    230 mL
   Urine:
                                                                  3,800 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,351 mL
                                                                    311 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 113
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 98%
   ABG: 7.45/39/109/26/2 at 330am;  7.51/32/96 at 4pm
   Ve: 9.1 L/min
   PaO2 / FiO2: 218
   Physical Examination
   GEN:  Pt. intubated and mildly sedated, awake, following commands.
   Opens, closes eyes to command
   HEENT:  NC/AT, looks comfortable.
   CV:  RRR, nl S1 and S2 without murmur
 though limited exam due to
   upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS. CTA in upper lung fields, with diminished but
   clear sounds posteriorly.
   ABD:  Soft, ND/NT, BS+
   EXT:  1+ extremity edema of both upper and lower limbs.
   Skin: no rashes or lesions noted.
   Neurologic: Withdrawing to pain. Opens, closes eyes to command.
   Squeezing Left hand with thumb. Wiggles toes BL.
   Labs / Radiology
   299 K/uL
   10.7 g/dL
   111 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   18 mg/dL
   114 mEq/L
   146 mEq/L
   30.7 %
   11.3 K/uL
        [image002.jpg]
   Prior Na 149, Cl 116
                            [**2105-9-21**]  10:22 AM
                            [**2105-9-21**]  06:02 PM
                            [**2105-9-21**]  06:08 PM
                            [**2105-9-22**]  12:14 AM
                            [**2105-9-22**]  03:01 AM
                            [**2105-9-22**]  06:55 AM
                            [**2105-9-22**]  04:31 PM
                            [**2105-9-22**]  04:39 PM
                            [**2105-9-23**]  03:01 AM
                            [**2105-9-23**]  03:30 AM
   WBC
   13.9
   11.3
   Hct
   32.8
   30.7
   Plt
   311
   299
   Cr
   0.6
   0.5
   0.5
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   24
   24
   26
   27
   26
   28
   Glucose
   108
   100
   101
   105
   111
   Other labs: PT / PTT / INR:13.1/24.6/1.1, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:16/18, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:1.0 mmol/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Micro
   Source: Catheter
   Color
   Yellow
   Appear
   Clear
   SpecGr
   1.014
   pH
   5.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Neg
   Bld
   Mod
   Nitr
   Neg
   Prot
   Neg
   Glu
   Neg
   Ket
   Neg
   RBC
   [**2-4**]
   WBC
   [**2-4**]
   Bact
   Few
   Yeast
   None
   Epi
   0-2
                                     CSF
                                  Chemistry
                                    Protein
                                     31
                                    Glucose
                                     67
   #4; TUBE #4
     CSF
                                      WBC
                                      3
                                      RBC
                                     185
                                     Poly
                                     15
                                     Lymph
                                     71
                                     Mono
                                     15
                                      EOs
   Comments:
   CSF WBC: Clear And Colorless
   CSF Polys: 55 Cell Differential
   Source: LP; TUBE #1
     CSF
                                      WBC
                                      5
                                      RBC
                                     26
                                     Poly
                                      0
                                     Lymph
                                     56
                                     Mono
                                     44
                                      EOs
[**2105-9-22**] 6:30 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2105-9-22**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
   RESPIRATORY CULTURE (Preliminary):
   [**9-22**] Urine cx, blood cx, CSF cx Pending
   Imaging
   [**9-22**] Echo
   The left atrium is normal in size. There is moderate symmetric left
   ventricular hypertrophy. The left ventricular cavity size is normal.
   The left ventricular cavity is unusually small. Regional left
   ventricular wall motion is normal. Left ventricular systolic function
   is hyperdynamic (EF>75%). Tissue Doppler imaging suggests an increased
   left ventricular filling pressure (PCWP>18mmHg). There is a mild
   resting left ventricular outflow tract obstruction. Right ventricular
   chamber size and free wall motion are normal. The ascending aorta is
   moderately dilated. The aortic arch is markedly dilated. The aortic
   valve leaflets (3) are mildly thickened but aortic stenosis is not
   present. No aortic regurgitation is seen. No mitral regurgitation is
   seen. The left ventricular inflow pattern suggests impaired relaxation.
   There is borderline pulmonary artery systolic hypertension. There is an
   anterior space which most likely represents a fat pad.
   IMPRESSION: Suboptimal image quality. Moderate ventricular hypertrophy
   with small LV cavity and hyperdynamic function. Moderately dilated
   ascending aorta and markedly dilated arch. Impaired relaxation.
   Borderline pulmonary hypertension.
   Compared with the prior study (images reviewed) of [**2105-9-18**], the
   previously visualized aortic dissection/hematoma is not as well
   visualized.
   EEG Final read pending
   MRI Wet Read
   evolving infarcts as before.
   patent arteries in the head on source images- waiting for better
   reformations.
   left vertebral artery- small in caliber from its origin- likely
   hypoplasia.
   left distal vertebral artery not seen- AICA and PICA seen filling from
   the
   basialr artery with a small segment of the distal most vertebral
   filling
   through retrograde flow.
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   dissecting aortic aneurysm with history of known thoracic aneurysm.
   # Respiratory Failure: Now intubated, remains mildly sedated on
   propofol. Failed RSBI this am. Not tolerating PSV in am so changed back
   to AC. Minimal vent settings with PEEP 5, FiO2 50 %. ABG with mild resp
   alkalosis
   - Wean vent settings as tolerated, Daily RSBI and SBT with sedation
   holidays
   - Continuing CTX for aspiration concerns, PNA, will add Vanco given GPC
   in sputum.
   - Continue discussions with family as the results of her EEG, MRI/MRA
   and LP return.
   - Vanco 1g IV q12 for GPC sputum, check trough after 3rd dose
   # Aortic Dissection: Etiology likely rupture of known aneurysm.  CT
   Surgery consulted in ED but hesitant to take to OR given AMS and
   concern for poor outcome.  Additionally, would anti-coagulate for
   surgery and could result in hemorrhagic conversion of small CVAs
   although per Nuerology low risk. CT [**Doctor First Name 91**] no longer following but will
   call today given improvement in MS. [**First Name (Titles) 2007**] [**Last Name (Titles) 2008**] risk with NP
   from CT surgery and Dr. [**First Name (STitle) **]. Patient not [**First Name (STitle) 2008**] candidate at this
   time.
   - Not [**First Name (STitle) 2008**] candidate. Will reconsult CT [**Doctor First Name 91**] if pt Extubated, MS
   improves
   - Maintain SBP 100-120 with Propofol, Metoprolol PO TID. Add Esmolol
   and titrate up Metoprolol as needed for BP control
   - Q4H Neuro checks as able
   # AMS: Improved this am. Likely secondary to dissection and multifocal
   infarcts potentially embolic.  Per Neuro consult, AMS has unknown
   etiology due to motion artifact.  Pt. re-intubated for imaging
   studies.. Will follow serial neuro exams. LP negative for infxn.
   - Follow up final reads EEG and MRI/MRA, LP
   - Follow-up Neuro recs. Restarted ASA as per neurology recs, was ok
   with CT [**Doctor First Name 91**]
   - Continue Propofol since has a short half life and can be discontinued
   to assess mental status, neuro exams
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR. Now off Dilt gtt, on Metoprolol 12.5 PO
   TID with good rate control currently.
   -          Will increase Metoprolol, titrate up for improved BP and HR
   control with the intention of increasing the PO dose in order to
   decrease the overall amount of fluid intake and transition to a more
   stable rate control [**Doctor Last Name **].
   #Fever: Pt had isolated spike in fever overnight then defervesced. Most
   obvious source is pulmonary given infiltrate, h/o aspiration. Currently
   on Ceftriaxone. Blood, sputum cultures were pending. Sputum cx retunred
   as GPC and MRSA screen was positive so will treat with Vanco and await
   final C and S
   -          Add Vanco to cover possible MRSA PNA
   -          If spikes will add Zosyn for gram negative including
   Pseudomonas
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Propofol, Enalaprilat and PO metoprolol to achieve a
   goal SBP 100-120
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Diltiazem and ASA.  Wasn
t on
   metoprolol or Lisinopril so unclear severity of underlying disease.
   F: Administered 20 IV lasix and will monitor UOP
 with a goal of
   negative 1 liter since [**06**] liters positive for stay. Responds well to
   Lasix 20 IV
   E: Replete lytes prn. Check pm lytes
   N: Cont. tubefeeds via Dobhoff tube per nutrition recs.
   Access:  A line and 18 gauge are functional.
   Prophylaxis: SCDs, will add heparin SC given low risk hemorrhage per
   Neuro and pt immobile at high risk DVT, Lansoprazole, bowel regimen PRN
   CODE: Full Code.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-9-22**] 04:14 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-9-17**] 05:30 PM
   PICC Line - [**2105-9-18**] 06:05 PM
   18 Gauge - [**2105-9-21**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-09-23 10:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2105-9-22**] 09:02 AM
 LUMBAR PUNCTURE - At [**2105-9-22**] 03:00 PM
 PAN CULTURE - At [**2105-9-22**] 04:30 PM
   Remains intubated, mechanically ventilated.
   Somnulant, but able to arouse to voice.  Slow to respond and movement
   minimal (including head nods and wiggle toes).
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-9-23**] 04:02 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2105-9-22**] 01:39 PM
   Morphine Sulfate - [**2105-9-22**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2105-9-23**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.7
C (98
   HR: 93 (75 - 109) bpm
   BP: 130/77(90) {106/55(75) - 141/88(100)} mmHg
   RR: 21 (13 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,449 mL
                                                                  1,033 mL
   PO:
             TF:
                                                                    195 mL
                                                                    223 mL
   IVF:
                                                                  1,123 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                  3,800 mL
                                                                    750 mL
   Urine:
                                                                  3,800 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,351 mL
                                                                    283 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 278 (278 - 278) mL
   RR (Set): 16
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 113
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 32.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.45/39/109/26/2
   Ve: 10 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.7 g/dL
   299 K/uL
   111 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   18 mg/dL
   114 mEq/L
   146 mEq/L
   30.7 %
   11.3 K/uL
        [image002.jpg]
                            [**2105-9-21**]  10:22 AM
                            [**2105-9-21**]  06:02 PM
                            [**2105-9-21**]  06:08 PM
                            [**2105-9-22**]  12:14 AM
                            [**2105-9-22**]  03:01 AM
                            [**2105-9-22**]  06:55 AM
                            [**2105-9-22**]  04:31 PM
                            [**2105-9-22**]  04:39 PM
                            [**2105-9-23**]  03:01 AM
                            [**2105-9-23**]  03:30 AM
   WBC
   13.9
   11.3
   Hct
   32.8
   30.7
   Plt
   311
   299
   Cr
   0.6
   0.5
   0.5
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   24
   24
   26
   27
   26
   28
   Glucose
   108
   100
   101
   105
   111
   Other labs: PT / PTT / INR:13.1/24.6/1.1, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:16/18, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:1.0 mmol/L, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Somnulance, aortic aneurysm dissection.
   RESPIRATORY FAILURE -- unclear etiology for ventilatory failure.
   Possible contribution from CVA and pneumonia.
   PNEUMONIA -- continue antimicrobials, may need to broaden
   antimicrobials.
   AORTIC DISSECTION -- Type I.  Not surgical candidate currently pending
   neurological evaluation.
   A-FIB -- good rate control.  Monitor HR.
   SOMNULANCE -- Unclear etiology.  [**Month (only) 8**] be due to CVAs (related to aortic
   dissection and involvement of great vessels), medication effect.
   Propofol for sedation if needed.
   CVA -- ?new or evolving CVA.  Await MRI read.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-9-22**] 04:14 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-9-17**] 05:30 PM
   PICC Line - [**2105-9-18**] 06:05 PM
   18 Gauge - [**2105-9-21**] 05:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Discussed with husband.
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2105-09-24 05:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Neurorads: follow up prelim read [many subacute strokes which
   neurology feels does not explain her AMS].
   - CT surgery: due to resp + neuro status, not a surgical candidate.
   Signed off.
   - Placed on SCH
   - Lasix 20mg x 2 with good response.
   - Spiked fever to 101.5 at 16:00, cultured and transitioned from
   Ceftriaxone to Vanc/Zosyn.
   - Titrating SBP to less than 120 with propofol and esmolol, PO
   Metoprolol at escalating doses.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-9-23**] 04:02 AM
   Piperacillin - [**2105-9-23**] 03:55 PM
   Vancomycin - [**2105-9-23**] 03:56 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-9-24**] 12:40 AM
   Infusions:
   Esmolol - 50 mcg/Kg/min
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2105-9-23**] 12:00 PM
   Morphine Sulfate - [**2105-9-23**] 01:06 PM
   Heparin Sodium (Prophylaxis) - [**2105-9-23**] 08:00 PM
   Furosemide (Lasix) - [**2105-9-24**] 01:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-9-24**] 05:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.2
C (100.7
   HR: 100 (77 - 107) bpm
   BP: 97/62(75) {95/54(68) - 145/88(106)} mmHg
   RR: 21 (0 - 88) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
             Total In:
                                                                  3,448 mL
                                                                  1,396 mL
   PO:
             TF:
                                                                    682 mL
                                                                    174 mL
   IVF:
                                                                  1,696 mL
                                                                    742 mL
   Blood products:
   Total out:
                                                                  2,570 mL
                                                                  1,425 mL
   Urine:
                                                                  2,570 mL
                                                                  1,425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    878 mL
                                                                    -29 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 278 (278 - 278) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 164
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 38.2 cmH2O/mL
   SpO2: 97%
   ABG: 7.49/36/111/28/5  3:38 am
   Ve: 9.1 L/min
   PaO2 / FiO2: 222
   Physical Examination
   GEN:  Pt. intubated and sedated. Not following commands, on Propofol.
   HEENT:  NC/AT, looks comfortable.
   CV:  RRR, nl S1 and S2 without murmur
 though limited exam due to
   upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS. Rhonchi in anterior lung fields, with
   diminished breath sounds in bases.
   ABD:  Soft, ND/NT, BS+
   EXT:  3+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Sedated. Unable to fully assess
   Labs / Radiology
   311 K/uL
   10.6 g/dL
   119 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   18 mg/dL
   109 mEq/L
   143 mEq/L
   30.5 %
   12.7 K/uL
        [image002.jpg]
                            [**2105-9-22**]  12:14 AM
                            [**2105-9-22**]  03:01 AM
                            [**2105-9-22**]  06:55 AM
                            [**2105-9-22**]  04:31 PM
                            [**2105-9-22**]  04:39 PM
                            [**2105-9-23**]  03:01 AM
                            [**2105-9-23**]  03:30 AM
                            [**2105-9-23**]  02:29 PM
                            [**2105-9-24**]  03:09 AM
                            [**2105-9-24**]  03:38 AM
   WBC
   13.9
   11.3
   12.7
   Hct
   32.8
   30.7
   30.5
   Plt
   [**Telephone/Fax (3) 2031**]
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   26
   27
   26
   28
   28
   Glucose
   100
   101
   105
   111
   116
   119
   Other labs: PT / PTT / INR:13.1/24.6/1.1, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:16/18, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:1.0 mmol/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Micro: [**9-22**] Sputum coag pos staph
[**9-23**]: GRAM STAIN (Final [**2105-9-23**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
Blood cx [**9-22**], [**9-23**], [**9-24**] NGTD
CSF cx no growth prelim
Imaging:
CXR: Bilateral pleural effusions. Difficult to assess for infiltrate given hazin
ess over basilar lung fields.
   EEG: pending [prelim: consistent with encephalopathy, ? left focal
   epileptiform activity, nothing to explain changes in mental status].
MRI:
   IMPRESSION:
   1. Continued evolution of the multiple embolic infarcts, in both
   cerebral
   hemispheres as well as in the right side of the pons and probably in
   the right
   cerebellar hemisphere, which may be real or artifactual.
   2. No obvious new large infarcts.
   3. Patent major intracranial arteries of the anterior circulation.
   Nonvisualization of the V3 and the majority of the V4 segments of the
   left
   vertebral artery, which may be due to absence/occlusion. However, the
   distalmost short segment of left vertebral artery is visualized, which
   may be
   filling by retrograde flow or through the ICA through some kind of
   communication.
   4. Patent major arteries of the neck without flow-limiting stenosis or
   occlusion. Left vertebral artery, diminutive in caliber likely related
   to
   hypoplasia.
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Now intubated, sedated on propofol. Failed RSBI
   this am, 164 likely [**1-3**] AMS as well as PNA and pulmonary edema. ABG
   with mild alkalosis on minimal vent settings with PEEP 5, FiO2 50 %.
   - Wean vent settings as tolerated, Daily RSBI and SBT with sedation
   holidays although will need to optimize pulmonary status first
   - On Vanc/Zosyn for PNA, fever.
   - Continue discussions with family.
   - Increase PO metoprolol to attempt to control HR and BP, decrease ins
   with esmolol as weaned off since persistently positive despite adequate
   UOP
   - Diurese to 1.5-2 liters per day with Lasix
   # Aortic Dissection: Etiology likely rupture of known aneurysm.  Seen
   by CT Surgery yesterday who reiterated that pt would not be good
   surgical candidate.
   - Not operative candidate. Will reconsult CT [**Doctor First Name 91**] if pt extubated, MS
   improves
   - Maintain SBP 100-120 with Propofol, Metoprolol PO TID. Titrate up
   Metoprolol as needed to maintain SBP and use esmolol only id SBP
   persistently elevated despite metoprolol
   - Q4H Neuro checks as able
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. re-intubated for imaging
   studies and remains vent dependent. Will follow serial neuro exams. LP
   negative for infxn.
   - Continue Vanc/Zosyn for infection, started ASA for CVA
   - Follow-up Neuro recs
   - Continue Propofol since has a short half life and can be discontinued
   to assess mental status and neuro exams
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently. Now off Dilt gtt, on
   Metoprolol 50 PO TID with good rate control currently.
   -          Will increase Metoprolol, titrate up for improved BP and HR
   control
   #Fever: Pt spiked fever again [**9-23**]. Sputum cx and blood cx now both
   positive. Fevers likely [**1-3**] bacteremia which is most likely from PNA
   given possible infiltrate, h/o aspiration. Sputum cx growing MRSA, GNR
   on gram stain, likely VAP/HCAP. Changed Abx to Vanc/Zosyn yesterday to
   cover VAP. Blood, final sputum cultures and [**Last Name (un) 46**] pending.
   -          Vanco/Zosyn for VAP coverage. Will add Cipro for double
   coverage PsA since Levofloxacin lowers sz threshold
   -          Surveillance blood cx
   #UE edema: Pt has UE>LE edema, likely [**1-3**]. Consider DVT given
   immobility, not on DVT prophylaxis ([**1-3**] stroke) until yesterday.
   -          Continue diuresis, goal negative 1.5-2 liters per day
   -          BL UE US to eval for DVT
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Propofol, Enalaprilat and PO metoprolol to achieve a
   goal SBP 100-120, emolol prn but will try to avoid
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Diltiazem and ASA.  Wasn
t on
   metoprolol or Lisinopril so unclear severity of underlying disease.
   F: Administered 40 IV lasix and will monitor UOP
 with a goal of
   negative 1.5-2 liters since [**06**] liters positive for stay.
   E: Replete lytes prn. Check pm lytes
   N: Cont. tubefeeds via Dobhoff tube per nutrition recs.
   Access:  A line and 18 gauge are functional.
   Prophylaxis: SCDs, heparin SC, Lansoprazole, bowel regimen PRN
   CODE: Full Code.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-9-22**] 04:14 PM 35 mL/hour
   Lines:
   Arterial Line - [**2105-9-17**] 05:30 PM
   PICC Line - [**2105-9-18**] 06:05 PM
   18 Gauge - [**2105-9-21**] 05:00 PM

2105-09-24 12:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2105-9-23**] 12:00 PM
 BLOOD CULTURED - At [**2105-9-23**] 02:47 PM
 BLOOD CULTURED - At [**2105-9-24**] 03:48 AM
 FEVER - 101.5
F - [**2105-9-23**] 04:00 PM
   Remains intubated, mechanically ventilated.
   Responds appropriately when sedation d/c
d, but slow to respond and
   motor activity quite limited (wiggles hands and toes).
   History obtained from Medical records
   Patient unable to provide history: Somnulant
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-9-23**] 04:02 AM
   Piperacillin - [**2105-9-23**] 03:55 PM
   Vancomycin - [**2105-9-24**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-9-24**] 08:10 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2105-9-23**] 12:00 PM
   Morphine Sulfate - [**2105-9-23**] 01:06 PM
   Heparin Sodium (Prophylaxis) - [**2105-9-24**] 04:00 AM
   Furosemide (Lasix) - [**2105-9-24**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2105-9-24**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.1
C (100.5
   HR: 90 (82 - 105) bpm
   BP: 107/65(81) {86/53(66) - 145/92(106)} mmHg
   RR: 17 (0 - 88) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  3,452 mL
                                                                  2,356 mL
   PO:
             TF:
                                                                    686 mL
                                                                    415 mL
   IVF:
                                                                  1,696 mL
                                                                  1,410 mL
   Blood products:
   Total out:
                                                                  2,570 mL
                                                                  2,585 mL
   Urine:
                                                                  2,570 mL
                                                                  2,585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    882 mL
                                                                   -229 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 164
   PIP: 41 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: 7.49/36/111/28/5
   Ve: 8.1 L/min
   PaO2 / FiO2: 222
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.6 g/dL
   311 K/uL
   119 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.7 mEq/L
   18 mg/dL
   109 mEq/L
   143 mEq/L
   30.5 %
   12.7 K/uL
        [image002.jpg]
                            [**2105-9-22**]  12:14 AM
                            [**2105-9-22**]  03:01 AM
                            [**2105-9-22**]  06:55 AM
                            [**2105-9-22**]  04:31 PM
                            [**2105-9-22**]  04:39 PM
                            [**2105-9-23**]  03:01 AM
                            [**2105-9-23**]  03:30 AM
                            [**2105-9-23**]  02:29 PM
                            [**2105-9-24**]  03:09 AM
                            [**2105-9-24**]  03:38 AM
   WBC
   13.9
   11.3
   12.7
   Hct
   32.8
   30.7
   30.5
   Plt
   [**Telephone/Fax (3) 2031**]
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   26
   27
   26
   28
   28
   Glucose
   100
   101
   105
   111
   116
   119
   Other labs: PT / PTT / INR:13.1/24.6/1.1, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:16/18, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:1.0 mmol/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Microbiology: Sputum ([**9-22**]) MRSA
   Blood culture ([**9-22**]) GPC
   Assessment and Plan
   AORTIC DISSECTION -- type I; not surgical candidate at this time due to
   significantly altered mental status.
   RESPIRATORY FAILURE -- multifactorial, including pneumonia and CVAs
   ALTERED MENTAL STATUS -- attributed in part to CNS  process (multiple
   strokes), and complicated by active infection (pneumonia/bacteremia)
   and CHF.  Mild epileptiform waves on EEG
 will need continuous EEG if
   no improvement in mental status over time, or if overt seizures
   develop.
   CVA -- multiple, bilateral, predominately cortical and some deep.  No
   evolution.  Continue ASA.  Hope to allow full anticoagulation if no
   contraindication.
   A-FIB --  rate controlled.  Monitor HR.
   FEVER -- attributed to pneumnia and bacteremia
   NUTRITIONAL SUPPORT -- TF
   EDEMA -- upper extremity > lower extremity.  Possibly related to aortic
   dissection, and volume resussitation.  Will check UE NIVS to assess for
   DVT.
   FLUIDS -- desire net negative balance.  Monitor I/O.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-9-24**] 05:36 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-9-17**] 05:30 PM
   PICC Line - [**2105-9-18**] 06:05 PM
   18 Gauge - [**2105-9-21**] 05:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Updated husband and neice during family
   meeting.
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2105-09-25 04:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Negative 1500 with Lasix 40 IV x 3. Repeat ordered again this am
   Has RUE DVT. Midline DC'd. PIVs placed. Ordered new PICC for LUE
   Will d/w CT [**Doctor First Name **] possible anticoagulation for stroke +/- DVT
   Remained off Esmolol gtt
   Episode tachy to 160 when PS decreased 14 to 12. Resolved when changed
   back to increased pressure support
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-9-23**] 04:02 AM
   Piperacillin - [**2105-9-23**] 03:55 PM
   Vancomycin - [**2105-9-24**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-9-25**] 12:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-9-24**] 08:30 PM
   Furosemide (Lasix) - [**2105-9-24**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-9-25**] 04:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 96 (84 - 121) bpm
   BP: 122/64(83) {86/53(66) - 129/92(97)} mmHg
   RR: 14 (13 - 87) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  3,399 mL
                                                                    532 mL
   PO:
             TF:
                                                                    841 mL
                                                                    166 mL
   IVF:
                                                                  1,877 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  4,865 mL
                                                                    740 mL
   Urine:
                                                                  4,865 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,466 mL
                                                                   -208 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 420) mL
   Vt (Spontaneous): 512 (337 - 512) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: 7.49/42/108/30/8
   Ve: 6.2 L/min
   PaO2 / FiO2: 270
   Physical Examination
   GEN:  Pt. intubated and sedated. Not following commands, on Propofol.
   HEENT:  NC/AT, looks comfortable.
   CV:  RRR, nl S1 and S2 without murmur
 though limited exam due to
   upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS. Rhonchi in anterior lung fields, with
   diminished breath sounds in bases.
   ABD:  Soft, ND/NT, BS+
   EXT:  3+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Sedated. Unable to fully assess
   Labs / Radiology
   340 K/uL
   10.4 g/dL
   105 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.2 mEq/L
   16 mg/dL
   103 mEq/L
   140 mEq/L
   29.7 %
   14.4 K/uL
        [image002.jpg]
                            [**2105-9-22**]  04:39 PM
                            [**2105-9-23**]  03:01 AM
                            [**2105-9-23**]  03:30 AM
                            [**2105-9-23**]  02:29 PM
                            [**2105-9-24**]  03:09 AM
                            [**2105-9-24**]  03:38 AM
                            [**2105-9-24**]  02:27 PM
                            [**2105-9-24**]  05:05 PM
                            [**2105-9-25**]  02:58 AM
                            [**2105-9-25**]  03:04 AM
   WBC
   11.3
   12.7
   14.4
   Hct
   30.7
   30.5
   29.7
   Plt
   299
   311
   340
   Cr
   0.5
   0.5
   0.5
   0.7
   0.6
   TCO2
   26
   28
   28
   29
   33
   Glucose
   111
   116
   119
   117
   105
   Other labs: PT / PTT / INR:13.1/24.6/1.1, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:16/18, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:1.0 mmol/L, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Now intubated, sedated on propofol. Failed RSBI
   this am, 164 likely [**1-3**] AMS as well as PNA and pulmonary edema. ABG
   with mild alkalosis on minimal vent settings with PEEP 5, FiO2 50 %.
   - Wean vent settings as tolerated, Daily RSBI and SBT with sedation
   holidays although will need to optimize pulmonary status first
   - On Vanc/Zosyn for PNA, fever.
   - Continue discussions with family.
   - Increase PO metoprolol to attempt to control HR and BP, decrease ins
   with esmolol as weaned off since persistently positive despite adequate
   UOP
   - Diurese to 1.5-2 liters per day with Lasix
   # Aortic Dissection: Etiology likely rupture of known aneurysm.  Seen
   by CT Surgery yesterday who reiterated that pt would not be good
   surgical candidate.
   - Not operative candidate. Will reconsult CT [**Doctor First Name 91**] if pt extubated, MS
   improves
   - Maintain SBP 100-120 with Propofol, Metoprolol PO TID. Titrate up
   Metoprolol as needed to maintain SBP and use esmolol only id SBP
   persistently elevated despite metoprolol
   - Q4H Neuro checks as able
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. re-intubated for imaging
   studies and remains vent dependent. Will follow serial neuro exams. LP
   negative for infxn.
   - Continue Vanc/Zosyn for infection, started ASA for CVA
   - Follow-up Neuro recs
   - Continue Propofol since has a short half life and can be discontinued
   to assess mental status and neuro exams
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently. Now off Dilt gtt, on
   Metoprolol 50 PO TID with good rate control currently.
   -          Will increase Metoprolol, titrate up for improved BP and HR
   control
   #Fever: Pt spiked fever again [**9-23**]. Sputum cx and blood cx now both
   positive. Fevers likely [**1-3**] bacteremia which is most likely from PNA
   given possible infiltrate, h/o aspiration. Sputum cx growing MRSA, GNR
   on gram stain, likely VAP/HCAP. Changed Abx to Vanc/Zosyn yesterday to
   cover VAP. Blood, final sputum cultures and [**Last Name (un) 46**] pending.
   -          Vanco/Zosyn for VAP coverage. Will add Cipro for double
   coverage PsA since Levofloxacin lowers sz threshold
   -          Surveillance blood cx
   #UE edema: Pt has UE>LE edema, likely [**1-3**]. Consider DVT given
   immobility, not on DVT prophylaxis ([**1-3**] stroke) until yesterday.
   -          Continue diuresis, goal negative 1.5-2 liters per day
   -          BL UE US to eval for DVT
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Propofol, Enalaprilat and PO metoprolol to achieve a
   goal SBP 100-120, emolol prn but will try to avoid
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Diltiazem and ASA.  Wasn
t on
   metoprolol or Lisinopril so unclear severity of underlying disease.
   F: Administered 40 IV lasix and will monitor UOP
 with a goal of
   negative 1.5-2 liters since [**06**] liters positive for stay.
   E: Replete lytes prn. Check pm lytes
   N: Cont. tubefeeds via Dobhoff tube per nutrition recs.
   Access:  A line and 18 gauge are functional.
   Prophylaxis: SCDs, heparin SC, Lansoprazole, bowel regimen PRN
   CODE: Full Code.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-9-24**] 05:36 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-9-17**] 05:30 PM
   18 Gauge - [**2105-9-24**] 04:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-09-25 13:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2105-9-24**] 02:14 PM
   upper extrems
 EKG - At [**2105-9-24**] 09:00 PM
   run of sinus tachy to 160s following vent changes
 PICC LINE - STOP [**2105-9-24**] 10:00 PM
   Clinically, remains intubated, mechanically ventilated.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2105-9-23**] 04:02 AM
   Piperacillin - [**2105-9-23**] 03:55 PM
   Vancomycin - [**2105-9-24**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-9-25**] 08:32 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-9-25**] 04:03 AM
   Furosemide (Lasix) - [**2105-9-25**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2105-9-25**] 01:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.3
C (97.3
   HR: 104 (88 - 121) bpm
   BP: 113/101(106) {95/54(68) - 129/101(106)} mmHg
   RR: 14 (13 - 87) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
             Total In:
                                                                  3,399 mL
                                                                  1,328 mL
   PO:
             TF:
                                                                    841 mL
                                                                    356 mL
   IVF:
                                                                  1,877 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                  4,865 mL
                                                                  1,810 mL
   Urine:
                                                                  4,865 mL
                                                                  1,810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,466 mL
                                                                   -482 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 478 (337 - 512) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 17 cmH2O
   SpO2: 95%
   ABG: 7.49/42/108/30/8
   Ve: 10.1 L/min
   PaO2 / FiO2: 108
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.4 g/dL
   340 K/uL
   105 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.2 mEq/L
   16 mg/dL
   103 mEq/L
   140 mEq/L
   29.7 %
   14.4 K/uL
        [image002.jpg]
                            [**2105-9-22**]  04:39 PM
                            [**2105-9-23**]  03:01 AM
                            [**2105-9-23**]  03:30 AM
                            [**2105-9-23**]  02:29 PM
                            [**2105-9-24**]  03:09 AM
                            [**2105-9-24**]  03:38 AM
                            [**2105-9-24**]  02:27 PM
                            [**2105-9-24**]  05:05 PM
                            [**2105-9-25**]  02:58 AM
                            [**2105-9-25**]  03:04 AM
   WBC
   11.3
   12.7
   14.4
   Hct
   30.7
   30.5
   29.7
   Plt
   299
   311
   340
   Cr
   0.5
   0.5
   0.5
   0.7
   0.6
   TCO2
   26
   28
   28
   29
   33
   Glucose
   111
   116
   119
   117
   105
   Other labs: PT / PTT / INR:13.1/24.6/1.1, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:16/18, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:1.0 mmol/L, Albumin:2.2 g/dL,
   Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- intubated for airway protection.  Now with
   evidence for MRSA VAP --> antibiotics.
   BACTEREMIA -- GPC (?MRSA) --> Vanco
   RUE DVT -- line-related.  Line d/c'd.  [**Month (only) 8**] benefit from
   anticoagulation, but need to clear with thoracic surgery.  Hopefully
   AORTIC ANEURYSM -- type I; not surgical candidate.
   FLUIDS -- net overloaded; desire net negative fluid balance of [**12-3**]
   L/24hrs
   CHF -- continue to treat with net diuresis.
   CVA -- multiple, diffuse.  Stable.  Will need to better assess
   neurological status once extubated and acute medical conditoins
   improved.
 ELECTROLYTE & FLUID DISORDER, OTHER
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERNATREMIA (HIGH SODIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SUPRAVENTRICULAR TACHYCARDIA (SVT)
 ANXIETY
 ATRIAL FIBRILLATION (AFIB)
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 .H/O MALNUTRITION
 OBSTRUCTIVE SLEEP APNEA (OSA)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 HEMATEMESIS (UPPER GI BLEED, UGIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 TACHYCARDIA, OTHER
 AORTIC DISSECTION
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 LEUKOCYTOSIS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2105-9-17**] 05:30 PM
   18 Gauge - [**2105-9-24**] 04:02 PM
   20 Gauge - [**2105-9-25**] 09:56 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2105-09-26 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Midline placed with angio.
   FEVER - 101.2
F - [**2105-9-25**] 04:00 PM, blood cultures drawn.
   Started heparin gtt. after speaking with neurology and CT surgery
   services.
   Lasix at 4pm, I:O: -624 mL
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2105-9-23**] 03:55 PM
   Vancomycin - [**2105-9-25**] 08:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-9-26**] 12:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-9-25**] 02:40 PM
   Furosemide (Lasix) - [**2105-9-25**] 05:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-9-26**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.9
C (100.2
   HR: 97 (88 - 113) bpm
   BP: 100/57(70) {91/48(62) - 119/101(106)} mmHg
   RR: 15 (9 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,541 mL
                                                                    649 mL
   PO:
             TF:
                                                                    696 mL
                                                                    229 mL
   IVF:
                                                                    884 mL
                                                                    211 mL
   Blood products:
   Total out:
                                                                  3,165 mL
                                                                    640 mL
   Urine:
                                                                  3,165 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -624 mL
                                                                      9 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 491 (425 - 491) mL
   PS : 12 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 102
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: ///31/
   Ve: 8.4 L/min
   Physical Examination
   GEN:  Pt. intubated with no sedation.  Awake and seemingly alert, able
   to follow commands and is able to move all limbs except right UE. .
   HEENT:  NC/AT, looks comfortable.
   CV:  RRR, nl S1 and S2 without murmur
 though limited exam due to
   upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS. Rhonchi in anterior lung fields, L>R with
   diminished breath sounds in bases.
   ABD:  Soft, ND/NT, BS+
   EXT:  3+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Sedated. Unable to fully assess
   Labs / Radiology
   365 K/uL
   10.0 g/dL
   143 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.8 mEq/L
   18 mg/dL
   102 mEq/L
   138 mEq/L
   29.2 %
   12.5 K/uL
        [image002.jpg] Calcium corrects to 9.2.
                            [**2105-9-23**]  03:30 AM
                            [**2105-9-23**]  02:29 PM
                            [**2105-9-24**]  03:09 AM
                            [**2105-9-24**]  03:38 AM
                            [**2105-9-24**]  02:27 PM
                            [**2105-9-24**]  05:05 PM
                            [**2105-9-25**]  02:58 AM
                            [**2105-9-25**]  03:04 AM
                            [**2105-9-25**]  03:15 PM
                            [**2105-9-26**]  03:06 AM
   WBC
   12.7
   14.4
   13.5
   12.5
   Hct
   30.5
   29.7
   29.2
   29.2
   Plt
   [**Telephone/Fax (3) 2072**]65
   Cr
   0.5
   0.5
   0.7
   0.6
   0.6
   0.5
   TCO2
   28
   28
   29
   33
   Glucose
   116
   119
   117
   105
   102
   143
   Other labs: PT / PTT / INR:14.7/150.0/1.3, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:16/18, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:1.0 mmol/L, Albumin:2.2 g/dL,
   Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Now intubated, sedated on propofol. Failed RSBI
   this am, 164 likely [**1-3**] AMS as well as PNA and pulmonary edema. ABG
   with mild alkalosis on minimal vent settings.  Wean vent settings as
   tolerated, Daily RSBI and SBT with sedation holidays although will need
   to optimize pulmonary status first
   - On Vanc/Zosyn for PNA, fever
 5 day course, started on [**9-23**].
   - Continue discussions with family.
   - Diurese to 1.5-2 liters per day with Lasix again today.
   # Aortic Dissection: Etiology likely rupture of known aneurysm.  Seen
   by CT Surgery yesterday who reiterated that pt would not be good
   surgical candidate.
   - Not operative candidate. Will reconsult CT [**Doctor First Name 91**] if pt extubated, MS
   improves
   - Maintain SBP 100-120 with Propofol, Metoprolol PO TID. Titrate up
   Metoprolol as needed to maintain SBP and use esmolol only id SBP
   persistently elevated despite metoprolol
   - Q4H Neuro checks as able
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. re-intubated for imaging
   studies and remains vent dependent. Will follow serial neuro exams. LP
   negative for infxn.
   - Continue Vanc/Zosyn for infection, started ASA for CVA
   - Follow-up Neuro recs
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently. Now off Dilt gtt, on
   Metoprolol 50 PO TID with good rate control currently.
   -          Will increase Metoprolol, titrate up for improved BP and HR
   control
   -          Started Heparin gtt with the intention of transitioning to
   coumadin when possible.
   #Fever: Pt spiked fever again [**9-26**]. Sputum cx and blood cx both
   positive. Fevers likely [**1-3**] bacteremia which is most likely from PNA
   given possible infiltrate, h/o aspiration. Sputum cx growing MRSA, GNR
   on gram stain, likely VAP/HCAP. Changed Abx to Vanc/Zosyn yesterday to
   cover VAP. Blood, final sputum cultures and [**Last Name (un) 46**] pending.
   -          Vanco/Zosyn for VAP coverage.
   -          Surveillance blood cx
   #UE DVT: Pt has UE>LE edema, likely [**1-3**] to DVT.  Not yet on on DVT
   prophylaxis ([**1-3**] stroke).
   -          Continue diuresis, goal negative 1.5-2 liters per day
   -          Will discuss with Neurology and CT surgery to determine if
   anticoagulation is appropriate in the setting of CVAs and dissection.
   -          Using Heparin gtt and will continue on PO coumadin.
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Enalapril and PO metoprolol to achieve a goal SBP
   100-120, esmolol prn but will try to avoid because of large fluid load.
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Diltiazem and ASA.  Wasn
t on
   metoprolol or Lisinopril so unclear severity of underlying disease.
   F: Administered 40 IV lasix and will monitor UOP
 with a goal of
   negative 1.5-2 liters since [**06**] liters positive for stay.
   E: Replete lytes prn. Check pm lytes
   N: Cont. tubefeeds via Dobhoff tube per nutrition recs.
   Access:  A line and 18 gauge are functional.
   Prophylaxis: SCDs, heparin SC, Lansoprazole, bowel regimen PRN
   CODE: Full Code.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-9-25**] 02:17 PM 35 mL/hour
   Lines:
   Arterial Line - [**2105-9-17**] 05:30 PM
   20 Gauge - [**2105-9-25**] 09:56 AM
   Midline - [**2105-9-25**] 02:35 PM

2105-09-27 05:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Titrating heparin for a PTT of 60-70.
   - Diuresis with TID lasix
   - PS increased to "rest overnight" in anticipation of extubation.
   - I:O = -641 successful diuresis.
   - Clamped Dobhoff in anticipation of extubation, which promptly
   clogged.
   - Spike a fever of 100.7 that is new, blood cultures sent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2105-9-26**] 07:55 AM
   Vancomycin - [**2105-9-26**] 08:30 PM
   Piperacillin - [**2105-9-27**] 12:00 AM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-9-26**] 07:55 AM
   Furosemide (Lasix) - [**2105-9-26**] 10:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-9-27**] 05:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 91 (91 - 111) bpm
   BP: 100/54(70) {83/46(58) - 116/62(76)} mmHg
   RR: 14 (14 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,822 mL
                                                                    364 mL
   PO:
             TF:
                                                                    900 mL
   IVF:
                                                                  1,233 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  3,050 mL
                                                                    805 mL
   Urine:
                                                                  1,900 mL
                                                                    805 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -228 mL
                                                                   -441 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 405 (330 - 477) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.52/41/73.[**Numeric Identifier 252**]/34/9
   Ve: 9.6 L/min
   PaO2 / FiO2: 183
   Physical Examination
   GEN:  Pt. intubated with no sedation.  Awake and seemingly alert, able
   to follow commands and is able to move all limbs except right UE.
   HEENT:  NC/AT, looks comfortable.
   CV:  RRR, nl S1 and S2 without murmur
 though limited exam due to
   upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS. Rhonchi in anterior lung fields, L>R with
   diminished breath sounds in bases.
   ABD:  Soft, ND/NT, BS+
   EXT:  3+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Sedated. Unable to fully assess
   Labs / Radiology
   394 K/uL
   9.5 g/dL
   96 mg/dL
   0.7 mg/dL
   34 mEq/L
   3.0 mEq/L
   16 mg/dL
   100 mEq/L
   139 mEq/L
   26.9 %
   11.6 K/uL
        [image002.jpg]
                            [**2105-9-24**]  03:38 AM
                            [**2105-9-24**]  02:27 PM
                            [**2105-9-24**]  05:05 PM
                            [**2105-9-25**]  02:58 AM
                            [**2105-9-25**]  03:04 AM
                            [**2105-9-25**]  03:15 PM
                            [**2105-9-26**]  03:06 AM
                            [**2105-9-26**]  05:15 PM
                            [**2105-9-26**]  06:28 PM
                            [**2105-9-27**]  03:43 AM
   WBC
   14.4
   13.5
   12.5
   11.6
   Hct
   29.7
   29.2
   29.2
   26.9
   Plt
   [**Telephone/Fax (3) 2097**]94
   Cr
   0.7
   0.6
   0.6
   0.5
   0.6
   0.7
   TCO2
   28
   29
   33
   35
   Glucose
   117
   105
   102
   143
   114
   96
   Other labs: PT / PTT / INR:15.6/69.3/1.4, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:16/18, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:1.0 mmol/L, Albumin:2.2 g/dL,
   Ca++:7.5 mg/dL, Mg++:2.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Now intubated, sedated on propofol. Failed RSBI
   this am, 164 likely [**1-3**] AMS as well as PNA and pulmonary edema. ABG
   with mild alkalosis on minimal vent settings.  Wean vent settings as
   tolerated, Daily RSBI and SBT with sedation holidays although will need
   to optimize pulmonary status first
   - On Vanc/Zosyn for PNA, fever
 7 day course, started on [**9-23**].
   - Diurese to 1 liters with Lasix again today PRN
 stop the standing
   lasix.
   # Aortic Dissection: Etiology likely rupture of known aneurysm.
   - Not operative candidate. Will re-consult CT [**Doctor First Name 91**] if pt extubated, MS
   improves
   - Maintain SBP 100-120 Metoprolol PO TID. Titrate up Metoprolol as
   needed to maintain SBP and use esmolol only id SBP persistently
   elevated despite metoprolol
   - Q4H Neuro checks as able
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. re-intubated for imaging
   studies and remains vent dependent. LP negative for infxn.
   - Continue Vanc/Zosyn for infection, started ASA for CVA
   - Follow-up Neuro recs
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently. -         - Now off
   Dilt gtt, on Metoprolol 50 PO TID with good rate control currently.
   - Will increase Metoprolol, titrate up for improved BP and HR control
   - Started Heparin gtt with the intention of transitioning to coumadin
   when possible.
   #Fever: Pt spiked fever again [**9-27**]. Sputum cx and blood cx both
   positive. Fevers likely [**1-3**] bacteremia which is most likely from PNA
   given possible infiltrate, h/o aspiration. Sputum cx growing MRSA, GNR
   on gram stain, likely VAP/HCAP. Changed Abx to Vanc/Zosyn yesterday to
   cover VAP. Blood, final sputum cultures and [**Last Name (un) 46**] pending.
   -          Vanco/Zosyn for VAP coverage for 7 days started on [**9-23**].
   -          Surveillance blood cx follow up.
   #UE DVT: Pt has UE>LE edema, likely [**1-3**] to DVT.  Not yet on on DVT
   prophylaxis ([**1-3**] stroke).
   -          Continue diuresis, goal negative 1L
   -          Using Heparin gtt and will continue on PO coumadin.
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Enalapril and PO metoprolol to achieve a goal SBP
   100-120, esmolol prn but will try to avoid because of large fluid load.
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Diltiazem and ASA.
   F: Monitor UOP
 with a goal of net diuresis as she is 10 liters
   positive for stay.
   E: Replete lytes prn. Check pm lytes
   N: Cont. tubefeeds via Dobhoff tube per nutrition recs, once new tube
   is placed.
   Access:  A line and 18 gauge are functional.
   Prophylaxis: SCDs, heparin SC, Lansoprazole, bowel regimen PRN
   CODE: Full Code.
   ICU Care
   Nutrition:
   Lines:
   Arterial Line - [**2105-9-17**] 05:30 PM
   20 Gauge - [**2105-9-25**] 09:56 AM
   Midline - [**2105-9-25**] 02:35 PM
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   [**Known lastname 2081**] 74W altered mental status, embolic CVA's, aortic disection,
   RUE DVT, placed on heparin, fevers - VAP, persistent secretions, unable
   to wean pressure support
   Exam notable for Tm  100.7  HR 91    BP 100/54  RR 14  with 95 sat on
   PS 10/5/.4 RSBI 99  i/o's -1300 since midnight  alert, responsive,
   intubated, thick airway secretions, moving all extremities though
   significant paresis right hand,
   Labs notable for WBC 12K, HCT 27 , Na 139 ,K+3.0  , HCO3 34  ,Cr  .7,
   ptt 61  7.48/46/78
   Imaging: cxr with improved effusions
   Problems: CVA, respiratory failure, possible VAP, effusions, aortic
   disection, DVT, new low-grade fever
   Agree with plan to wean vent as tolerated, diurese, continue
   antibiotics, continue anticoagulation, control BP, work-up fever
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 36 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2105-9-27**] 14:06 ------

2105-09-28 05:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2105-9-27**] 11:01 PM; Dislodged with dsg change
 FEVER - 101.3
F - [**2105-9-27**] 08:00 PM. Pan cultured earlier in day
   Dobhoff tube placed (previous tube clogged)
   Pressure support increased to 10 overnight for agitation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2105-9-26**] 07:55 AM
   Vancomycin - [**2105-9-27**] 09:00 PM
   Piperacillin - [**2105-9-28**] 12:24 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2105-9-27**] 06:15 PM
   Morphine Sulfate - [**2105-9-27**] 07:07 PM
   Heparin Sodium - [**2105-9-28**] 03:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-9-28**] 05:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.1
C (98.7
   HR: 100 (85 - 118) bpm
   BP: 125/70(83) {91/48(58) - 125/71(83)} mmHg
   RR: 21 (10 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.9 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  2,378 mL
                                                                    339 mL
   PO:
             TF:
                                                                     92 mL
                                                                    180 mL
   IVF:
                                                                  2,106 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                  3,105 mL
                                                                    155 mL
   Urine:
                                                                  3,105 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -727 mL
                                                                    185 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 443 (260 - 443) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 106
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.48/46/77.[**Numeric Identifier 253**]/34/9
   Ve: 6.3 L/min
   PaO2 / FiO2: 195
   Physical Examination
   GEN:  Pt. intubated with no sedation.  Awake and seemingly alert, able
   to follow commands and is able to move all limbs except right UE.
   HEENT:  NC/AT, looks comfortable.
   CV:  RRR, nl S1 and S2 without murmur
 though limited exam due to
   upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS. Rhonchi in anterior lung fields, L>R with
   diminished breath sounds in bases.
   ABD:  Soft, ND/NT, BS+
   EXT:  3+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Sedated. Unable to fully assess
   Labs / Radiology
   411 K/uL
   9.0 g/dL
   119 mg/dL
   0.6 mg/dL
   34 mEq/L
   3.5 mEq/L
   14 mg/dL
   99 mEq/L
   137 mEq/L
   26.0 %
   11.4 K/uL
        [image002.jpg]
                            [**2105-9-25**]  02:58 AM
                            [**2105-9-25**]  03:04 AM
                            [**2105-9-25**]  03:15 PM
                            [**2105-9-26**]  03:06 AM
                            [**2105-9-26**]  05:15 PM
                            [**2105-9-26**]  06:28 PM
                            [**2105-9-27**]  03:43 AM
                            [**2105-9-27**]  08:43 AM
                            [**2105-9-27**]  03:30 PM
                            [**2105-9-28**]  01:57 AM
   WBC
   14.4
   13.5
   12.5
   11.6
   11.4
   Hct
   29.7
   29.2
   29.2
   26.9
   26.0
   Plt
   [**Telephone/Fax (3) 2097**]94
   411
   Cr
   0.6
   0.6
   0.5
   0.6
   0.7
   0.6
   0.6
   TCO2
   33
   35
   35
   Glucose
   105
   102
   143
   114
   96
   107
   119
   Other labs: PT / PTT / INR:16.4/56.5/1.5, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:16/18, Alk Phos / T Bili:73/0.5,
   Amylase / Lipase:23/11, Lactic Acid:1.0 mmol/L, Albumin:2.2 g/dL,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Now intubated, sedated on propofol. ABG with
   mild alkalosis on minimal vent settings.  Wean vent settings as
   tolerated, Daily RSBI and SBT with sedation holidays although will need
   to optimize pulmonary status first.  Received Lasix 40mg IV yesterday
   and this AM with response of -700ml.
   - changed abx to Vanco, D/C Zosyn and Levo for MRSA in sputum
   - Diurese to 1 liters with Lasix again today, got 40IV Lasix this AM.
   - Diamox started today, [**Hospital1 **] lytes
   # Aortic Dissection: Etiology likely rupture of known aneurysm.
   - Not operative candidate. Will re-consult CT [**Doctor First Name 91**] if pt extubated, MS
   improves
   - Maintain SBP 100-120 Metoprolol PO TID. Titrate up Metoprolol as
   needed to maintain SBP and use esmolol only id SBP persistently
   elevated despite metoprolol
   - Q4H Neuro checks as able
   - will f/u with Neuro if MS improves for consideration of sugery
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. re-intubated for imaging
   studies and remains vent dependent. LP negative for infxn. Mental
   status improving.
   - started ASA for CVA
   - Follow-up Neuro recs
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently. -         - Now off
   Dilt gtt, on Metoprolol 50 PO TID with good rate control currently.
   -          Started Heparin gtt, no Coumadin for now pending
   consideration of potential aortic dissection repair
   -          Metoprolol increased to 75mg PO TID
   #Fever: Pt spiked fever again [**9-27**]. Sputum cx and blood cx both
   positive. Fevers likely [**1-3**] bacteremia which is most likely from PNA
   given possible infiltrate, h/o aspiration. Sputum cx growing MRSA, GNR
   on gram stain, likely VAP/HCAP.
   -          Vancomycin started [**9-23**], will continue abx as pt is still
   febrile
   -          Surveillance blood cx follow up.
   -          Will check LFTs, amylase and lipase
   #UE DVT: Pt has UE>LE edema, likely [**1-3**] to DVT.  Not yet on on DVT
   prophylaxis ([**1-3**] stroke).
   -          Continue diuresis, goal negative 1L
   -          Using Heparin gtt, no coumadin for now pending potential
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Enalapril and PO metoprolol to achieve a goal SBP
   100-120, esmolol prn but will try to avoid because of large fluid load.
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Diltiazem and ASA.
   F: Monitor UOP
 with a goal of net diuresis as she is 10 liters
   positive for stay.
   E: Replete lytes prn. Check pm lytes
   N: Cont. tubefeeds via Dobhoff tube per nutrition recs, once new tube
   is placed.
   Access:  A line will be replaced today, pt has midline LUE
   Prophylaxis: SCDs, heparin SC, Lansoprazole, bowel regimen PRN
   CODE: Full Code.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-9-27**] 09:22 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-09-29 05:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Replaced A-line yesterday
   Zosyn stopped yesterday
   Started diamox for metabolic alkalosis
   PM lytes - K 3.2, phos 2.5, repleted
   Increased Metoprolol to 75mg TID; however pt got only 25mg at 6pm and
   11pm due to hypotension
   Lasix dosed [**9-28**] 40mg IV at 5am, 20mg IV at 11pm
   PS increased to 14/5 due to agitations, tachycardia
 ARTERIAL LINE - START [**2105-9-28**] 03:47 PM
 BLOOD CULTURED - At [**2105-9-28**] 03:48 PM
 URINE CULTURE - At [**2105-9-28**] 03:48 PM
 BLOOD CULTURED - At [**2105-9-28**] 10:00 PM
 FEVER - 102.2
F - [**2105-9-29**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2105-9-26**] 07:55 AM
   Piperacillin - [**2105-9-28**] 08:04 AM
   Vancomycin - [**2105-9-28**] 08:03 PM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2105-9-28**] 08:04 AM
   Morphine Sulfate - [**2105-9-28**] 06:07 PM
   Lorazepam (Ativan) - [**2105-9-28**] 10:02 PM
   Furosemide (Lasix) - [**2105-9-28**] 11:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-9-29**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.8
C (100.1
   HR: 102 (89 - 110) bpm
   BP: 87/51(62) {87/46(61) - 150/88(112)} mmHg
   RR: 12 (10 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.9 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  2,549 mL
                                                                    338 mL
   PO:
             TF:
                                                                    840 mL
                                                                    187 mL
   IVF:
                                                                  1,114 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                    587 mL
   Urine:
                                                                  2,160 mL
                                                                    587 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                     89 mL
                                                                   -249 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 536 (273 - 536) mL
   PS : 14 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.53/35/110/28/7
   Ve: 4.7 L/min
   PaO2 / FiO2: 275
   Physical Examination
   GEN:  Pt. intubated with no sedation.  Awake and seemingly alert, able
   to follow commands and is able to move all limbs except right UE.
   HEENT:  NC/AT, looks comfortable.
   CV:  RRR, nl S1 and S2 without murmur
 though limited exam due to
   upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS. Rhonchi in anterior lung fields, L>R with
   diminished breath sounds in bases.
   ABD:  Soft, ND/NT, BS+
   EXT:  3+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Sedated. Unable to fully assess
   Labs / Radiology
   484 K/uL
   9.0 g/dL
   132 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.3 mEq/L
   15 mg/dL
   99 mEq/L
   134 mEq/L
   25.5 %
   12.7 K/uL
        [image002.jpg]
                            [**2105-9-26**]  06:28 PM
                            [**2105-9-27**]  03:43 AM
                            [**2105-9-27**]  08:43 AM
                            [**2105-9-27**]  03:30 PM
                            [**2105-9-28**]  01:57 AM
                            [**2105-9-28**]  02:31 PM
                            [**2105-9-28**]  02:36 PM
                            [**2105-9-28**]  02:45 PM
                            [**2105-9-29**]  03:35 AM
                            [**2105-9-29**]  03:56 AM
   WBC
   11.6
   11.4
   12.7
   Hct
   26.9
   26.0
   26.1
   25.5
   Plt
   394
   411
   484
   Cr
   0.7
   0.6
   0.6
   0.7
   0.7
   TCO2
   35
   35
   35
   30
   Glucose
   96
   107
   119
   125
   132
   Other labs: PT / PTT / INR:15.9/75.9/1.4, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:22/28, Alk Phos / T Bili:66/0.4,
   Amylase / Lipase:22/16, Differential-Neuts:78.7 %, Lymph:12.6 %,
   Mono:7.2 %, Eos:1.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.2 g/dL,
   LDH:249 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Now intubated, sedated on propofol. ABG with
   mild alkalosis on minimal vent settings.  Wean vent settings as
   tolerated, Daily RSBI and SBT with sedation holidays although will need
   to optimize pulmonary status first.  Received Lasix 40mg IV yesterday
   and this AM with response of -700ml.
   - changed abx to Vanco, D/C Zosyn and Levo for MRSA in sputum
   - Diurese to 1 liters with Lasix again today, got 40IV Lasix this AM.
   - Diamox started today, [**Hospital1 **] lytes
   # Aortic Dissection: Etiology likely rupture of known aneurysm.
   - Not operative candidate. Will re-consult CT [**Doctor First Name 91**] if pt extubated, MS
   improves
   - Maintain SBP 100-120 Metoprolol PO TID. Titrate up Metoprolol as
   needed to maintain SBP and use esmolol only id SBP persistently
   elevated despite metoprolol
   - Q4H Neuro checks as able
   - will f/u with Neuro if MS improves for consideration of sugery
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. re-intubated for imaging
   studies and remains vent dependent. LP negative for infxn. Mental
   status improving.
   - started ASA for CVA
   - Follow-up Neuro recs
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently. -         - Now off
   Dilt gtt, on Metoprolol 50 PO TID with good rate control currently.
   -          Started Heparin gtt, no Coumadin for now pending
   consideration of potential aortic dissection repair
   -          Metoprolol increased to 75mg PO TID
   #Fever: Pt spiked fever again [**9-27**]. Sputum cx and blood cx both
   positive. Fevers likely [**1-3**] bacteremia which is most likely from PNA
   given possible infiltrate, h/o aspiration. Sputum cx growing MRSA, GNR
   on gram stain, likely VAP/HCAP.
   -          Vancomycin started [**9-23**], will continue abx as pt is still
   febrile
   -          Surveillance blood cx follow up.
   -          Will check LFTs, amylase and lipase
   #UE DVT: Pt has UE>LE edema, likely [**1-3**] to DVT.  Not yet on on DVT
   prophylaxis ([**1-3**] stroke).
   -          Continue diuresis, goal negative 1L
   -          Using Heparin gtt, no coumadin for now pending potential
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Enalapril and PO metoprolol to achieve a goal SBP
   100-120, esmolol prn but will try to avoid because of large fluid load.
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Diltiazem and ASA.
   F: Monitor UOP
 with a goal of net diuresis as she is 10 liters
   positive for stay.
   E: Replete lytes prn. Check pm lytes
   N: Cont. tubefeeds via Dobhoff tube per nutrition recs, once new tube
   is placed.
   Access:  A line will be replaced today, pt has midline LUE
   Prophylaxis: SCDs, heparin SC, Lansoprazole, bowel regimen PRN
   CODE: Full Code.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-9-29**] 01:46 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-9-28**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-09-30 05:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started on a lasix gtt with goal diuresis of -1.5 L, but stopped due
   to hypotension.
   - Antibiotics broadened to vanc & zosyn.
   - Started on Afrin and nasal saline
   - Sent C.diff culture
 URINE CULTURE - At [**2105-9-29**] 12:11 PM
 STOOL CULTURE - At [**2105-9-29**] 12:11 PM
 BLOOD CULTURED - At [**2105-9-30**] 04:00 AM
 FEVER - 102.2
F - [**2105-9-29**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2105-9-28**] 08:04 AM
   Vancomycin - [**2105-9-29**] 08:30 PM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2105-9-29**] 07:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-9-30**] 05:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.7
C (101.7
   HR: 110 (92 - 114) bpm
   BP: 101/57(70) {100/51(67) - 139/80(100)} mmHg
   RR: 30 (11 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.9 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  2,476 mL
                                                                    637 mL
   PO:
             TF:
                                                                    840 mL
                                                                    193 mL
   IVF:
                                                                  1,036 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  2,357 mL
                                                                    675 mL
   Urine:
                                                                  2,257 mL
                                                                    675 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    119 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 386 (386 - 1,445) mL
   PS : 14 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 97
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.48/37/368/25/4
   Ve: 10.3 L/min
   PaO2 / FiO2: 920
   Physical Examination
   GEN:  Pt. intubated.  Opens eyes to voice, able to follow simple
   commands and is able to move all limbs except right UE.
   HEENT:  NC/AT, looks comfortable.
   CV:  RRR, nl S1 and S2 without murmur
 though limited exam due to
   upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS. Rhonchi in anterior lung fields, L>R with
   diminished breath sounds in bases.
   ABD:  Soft, ND/NT, BS+
   EXT:  3+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Sedated. Unable to fully assess
   Labs / Radiology
   549 K/uL
   8.8 g/dL
   122 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.1 mEq/L
   14 mg/dL
   99 mEq/L
   133 mEq/L
   25.4 %
   13.7 K/uL
        [image002.jpg]
                            [**2105-9-28**]  01:57 AM
                            [**2105-9-28**]  02:31 PM
                            [**2105-9-28**]  02:36 PM
                            [**2105-9-28**]  02:45 PM
                            [**2105-9-29**]  03:35 AM
                            [**2105-9-29**]  03:56 AM
                            [**2105-9-29**]  09:30 AM
                            [**2105-9-29**]  02:49 PM
                            [**2105-9-30**]  03:03 AM
                            [**2105-9-30**]  05:07 AM
   WBC
   11.4
   12.7
   13.7
   Hct
   26.0
   26.1
   25.5
   25.4
   Plt
   [**Telephone/Fax (3) 2177**]
   Cr
   0.6
   0.7
   0.7
   0.6
   0.7
   TCO2
   35
   30
   27
   28
   Glucose
   119
   125
   132
   121
   122
   Other labs: PT / PTT / INR:15.0/59.2/1.3, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:22/28, Alk Phos / T Bili:66/0.4,
   Amylase / Lipase:22/16, Differential-Neuts:78.7 %, Lymph:12.6 %,
   Mono:7.2 %, Eos:1.3 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL,
   LDH:249 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   ABG: 7.48 / 37/ 368 / 28 ; Micro: [**9-28**] urine cx no growth, blood cx no
   growth, MRSA in sputum
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Now intubated. ABG with mild alkalosis on
   minimal vent settings.  Wean vent settings as tolerated, Daily RSBI and
   SBT with sedation holidays although will need to optimize pulmonary
   status first.  Pt is still near 9 L positive for fluid status.
   - Abx broadened to Vanc + Zosyn, following cultures before adding any
   antibiotics.
   - Diurese: resuming Lasix drip with goal of -1L today, [**Hospital1 **] lytes
   - Decrease evening dose of metoprolol as pt. becomes hypotensive at
   night, inhibiting diuresis.
   - Bedside ultrasound to eval pulmonary effusions and consider
   thoracentesis.
   # Aortic Dissection: Etiology likely rupture of known aneurysm.
   - Not operative candidate. Will re-consult CT [**Doctor First Name 91**] if pt extubated, MS
   improves
   - Maintain SBP 100-120 Metoprolol PO TID. Titrate up Metoprolol as
   needed to maintain SBP and use esmolol only id SBP persistently
   elevated despite metoprolol
   - Q4H Neuro checks as able
   - will f/u with Neuro if MS improves for consideration of sugery
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. re-intubated for imaging
   studies and remains vent dependent. LP negative for infxn. Mental
   status improving.  Neuro following, their recs appreciated.
   - started ASA for CVA
   - Follow-up neuro recs
 EEG once infection resolves.
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently. -
   - Started Heparin gtt, no Coumadin for now pending consideration of
   potential aortic dissection repair
   - Metoprolol 75mg PO 6 am, 2 pm; 50 mg PO 10 pm
   #Fever: Pt spiked fever again [**9-29**]. Fevers likely [**1-3**] bacteremia which
   is most likely from PNA given possible infiltrate, h/o aspiration.
   Sputum cx growing MRSA.
   -          Follow up blood, sputum, urine and stool cxs, and nasal
   swab.
   -          Follow up LFTs, amylase and lipase
   -          Consider thoracentesis for pleural effusion analysis.
   #UE DVT: Pt has UE>LE edema, likely [**1-3**] to DVT.
   -          Continue diuresis, goal negative 1L
   -          Using Heparin gtt, holding off from coumadin.
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Enalapril and PO metoprolol to achieve a goal SBP
   100-120, esmolol prn but will try to avoid because of large fluid load.
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Metoprolol and ASA.
   F: Monitor UOP
 with a goal of net diuresis as she is 9 liters
   positive for stay.
   E: Replete lytes prn. Check pm lytes
   N: Cont. tubefeeds via Dobhoff tube per nutrition recs.
   Access:  A line placed, pt has midline LUE
 if infectious status
   changes, will consider pulling all lines.
   Prophylaxis: SCDs, heparin gtt, Lansoprazole, bowel regimen PRN
   Dipo: Family meeting today to discuss consideration of trach & goals of
   care.
   CODE: Full Code.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-9-29**] 11:46 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-9-28**] 03:47 PM

2105-09-30 11:40:00 Physician Attending Progress Note
Chief Complaint: respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo women with proximal aortic dissection, c/b CVA, altered MS, MRSA
   PNA, volume overload, vent dependence.
   24 Hour Events:
 URINE CULTURE - At [**2105-9-29**] 12:11 PM
 STOOL CULTURE - At [**2105-9-29**] 12:11 PM
 BLOOD CULTURED - At [**2105-9-30**] 04:00 AM
 FEVER - 102.2
F - [**2105-9-29**] 08:00 PM
   lasix drip held due to HOTN.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2105-9-28**] 08:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-9-30**] 06:10 AM
   Vancomycin - [**2105-9-30**] 08:08 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Other medications:
   neurontin
   levoxyl
   chlorhex
   prevacid
   asa
   lidocaine patch
   free H20
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-9-30**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.9
C (100.2
   HR: 100 (89 - 110) bpm
   BP: 133/78(95) {94/51(67) - 145/88(108)} mmHg
   RR: 22 (11 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.9 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  2,476 mL
                                                                  1,504 mL
   PO:
             TF:
                                                                    840 mL
                                                                    397 mL
   IVF:
                                                                  1,036 mL
                                                                    616 mL
   Blood products:
   Total out:
                                                                  2,357 mL
                                                                    965 mL
   Urine:
                                                                  2,257 mL
                                                                    965 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    119 mL
                                                                    540 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 342 (342 - 1,445) mL
   PS : 14 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 97
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.48/37/368/25/4
   Ve: 8.4 L/min
   PaO2 / FiO2: 920
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Diminished: left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   549 K/uL
   122 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.1 mEq/L
   14 mg/dL
   99 mEq/L
   133 mEq/L
   25.4 %
   13.7 K/uL
         [image002.jpg]
                            [**2105-9-28**]  01:57 AM
                            [**2105-9-28**]  02:31 PM
                            [**2105-9-28**]  02:36 PM
                            [**2105-9-28**]  02:45 PM
                            [**2105-9-29**]  03:35 AM
                            [**2105-9-29**]  03:56 AM
                            [**2105-9-29**]  09:30 AM
                            [**2105-9-29**]  02:49 PM
                            [**2105-9-30**]  03:03 AM
                            [**2105-9-30**]  05:07 AM
   WBC
   11.4
   12.7
   13.7
   Hct
   26.0
   26.1
   25.5
   25.4
   Plt
   [**Telephone/Fax (3) 2177**]
   Cr
   0.6
   0.7
   0.7
   0.6
   0.7
   TCO2
   35
   30
   27
   28
   Glucose
   119
   125
   132
   121
   122
   Other labs: PT / PTT / INR:15.0/59.2/1.3, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:22/28, Alk Phos / T Bili:66/0.4,
   Amylase / Lipase:22/16, Differential-Neuts:78.7 %, Lymph:12.6 %,
   Mono:7.2 %, Eos:1.3 %, Lactic Acid:1.3 mmol/L, Albumin:2.2 g/dL,
   LDH:249 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Microbiology: urine no growth
   blood: no growth
   sputum: MRSA positive.
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):  Will tap
   left pleural effusion given fevers.  Unlikely large enough to impact
   respiratory function.
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM):  MS much improved,
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  Still requiring moderate
   ventilatory support, although oxygentation is improved.  If not
   responding to diureisis, consider w/u for neuromuscular component to
   respiratory failure.
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 TACHYCARDIA, OTHER
 AORTIC DISSECTION
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC :  Not moving left arm
 LEUKOCYTOSIS
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-9-29**] 11:46 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-9-28**] 03:47 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2105-10-01 05:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.9
F - [**2105-10-1**] 04:00 AM
   - lasix drip off & on depending on BP, unable to effectively diurese
   - pm metoprolol dose decreased
   - discussion with husband: prefers all medical communication through
   him and not his daughter; wait on deciding about trach given only 6
   days for this intubation; wants to wait on surgery if possible until
   wife is stronger
   - BP dropped at night again, lasix held; BP back up at 2400 and
   metoprolol 50 mg given (2 pm dose was held earlier in the day), lasix
   restarted; tachy at 5 am and metoprolol 50 mg given
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2105-9-28**] 08:04 AM
   Vancomycin - [**2105-9-30**] 08:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-9-30**] 10:24 PM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-1**] 05:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.8
C (101.9
   HR: 116 (89 - 116) bpm
   BP: 149/78(100) {79/47(59) - 164/90(114)} mmHg
   RR: 30 (17 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  2,876 mL
                                                                    456 mL
   PO:
             TF:
                                                                    840 mL
                                                                    190 mL
   IVF:
                                                                  1,356 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  2,180 mL
                                                                    340 mL
   Urine:
                                                                  2,180 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    696 mL
                                                                    116 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 473 (320 - 580) mL
   PS : 14 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.47/35/106/24/1
   Ve: 15.9 L/min
   PaO2 / FiO2: 265
   Physical Examination
   GEN:  Pt. intubated.  Opens eyes to voice, able to follow simple
   commands and is able to move all limbs except right UE.
   HEENT:  NC/AT, looks comfortable.
   CV:  RRR, nl S1 and S2 without murmur
 though limited exam due to
   upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS. Rhonchi in anterior lung fields, L>R with
   diminished breath sounds in bases.
   ABD:  Soft, ND/NT, BS+
   EXT:  3+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Sedated. Unable to fully assess
   Labs / Radiology
   602 K/uL
   8.4 g/dL
   115 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.7 mEq/L
   16 mg/dL
   100 mEq/L
   134 mEq/L
   24.6 %
   12.9 K/uL
        [image002.jpg]
                            [**2105-9-28**]  02:45 PM
                            [**2105-9-29**]  03:35 AM
                            [**2105-9-29**]  03:56 AM
                            [**2105-9-29**]  09:30 AM
                            [**2105-9-29**]  02:49 PM
                            [**2105-9-30**]  03:03 AM
                            [**2105-9-30**]  05:07 AM
                            [**2105-9-30**]  01:05 PM
                            [**2105-10-1**]  02:35 AM
                            [**2105-10-1**]  02:48 AM
   WBC
   12.7
   13.7
   12.9
   Hct
   25.5
   25.4
   24.6
   Plt
   [**Telephone/Fax (3) 2210**]
   Cr
   0.7
   0.6
   0.7
   0.8
   0.8
   TCO2
   35
   30
   27
   28
   26
   Glucose
   132
   121
   122
   144
   115
   Other labs: PT / PTT / INR:15.5/66.5/1.4, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:22/28, Alk Phos / T Bili:66/0.4,
   Amylase / Lipase:22/16, Differential-Neuts:88.8 %, Lymph:7.6 %,
   Mono:2.5 %, Eos:0.9 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL,
   LDH:249 IU/L, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Now intubated. ABG with mild alkalosis on
   minimal vent settings.  Wean vent settings as tolerated, Daily RSBI and
   SBT with sedation holidays although will need to optimize pulmonary
   status first.  Pt is still near 9 L positive for fluid status.
   - Abx broadened to Vanc + Zosyn, following cultures before adding any
   antibiotics.
   - Diurese: resuming Lasix drip with goal of -1L today, [**Hospital1 **] lytes
   - Decrease evening dose of metoprolol as pt. becomes hypotensive at
   night, inhibiting diuresis.
   - Bedside ultrasound to eval pulmonary effusions and consider
   thoracentesis.
   # Aortic Dissection: Etiology likely rupture of known aneurysm.
   - Not operative candidate. Will re-consult CT [**Doctor First Name 91**] if pt extubated, MS
   improves
   - Maintain SBP 100-120 Metoprolol PO TID. Titrate up Metoprolol as
   needed to maintain SBP and use esmolol only id SBP persistently
   elevated despite metoprolol
   - Q4H Neuro checks as able
   - will f/u with Neuro if MS improves for consideration of sugery
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. re-intubated for imaging
   studies and remains vent dependent. LP negative for infxn. Mental
   status improving.  Neuro following, their recs appreciated.
   - started ASA for CVA
   - Follow-up neuro recs
 EEG once infection resolves.
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently. -
   - Started Heparin gtt, no Coumadin for now pending consideration of
   potential aortic dissection repair
   - Metoprolol 75mg PO 6 am, 2 pm; 50 mg PO 10 pm
   #Fever: Pt spiked fever again [**9-29**]. Fevers likely [**1-3**] bacteremia which
   is most likely from PNA given possible infiltrate, h/o aspiration.
   Sputum cx growing MRSA.
   -          Follow up blood, sputum, urine and stool cxs, and nasal
   swab.
   -          Follow up LFTs, amylase and lipase
   -          Consider thoracentesis for pleural effusion analysis.
   #UE DVT: Pt has UE>LE edema, likely [**1-3**] to DVT.
   -          Continue diuresis, goal negative 1L
   -          Using Heparin gtt, holding off from coumadin.
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Enalapril and PO metoprolol to achieve a goal SBP
   100-120, esmolol prn but will try to avoid because of large fluid load.
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Metoprolol and ASA.
   F: Monitor UOP
 with a goal of net diuresis as she is 9 liters
   positive for stay.
   E: Replete lytes prn. Check pm lytes
   N: Cont. tubefeeds via Dobhoff tube per nutrition recs.
   Access:  A line placed, pt has midline LUE
 if infectious status
   changes, will consider pulling all lines.
   Prophylaxis: SCDs, heparin gtt, Lansoprazole, bowel regimen PRN
   Dipo: Family meeting today to discuss consideration of trach & goals of
   care.
   CODE: Full Code.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-10-1**] 04:16 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-9-28**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-10-02 04:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Zosyn stopped
   Vanc trough in AM [**10-1**] was 28.3. AM dose was given.  PM dose held.
   Trough reordered for [**10-2**] AM.
   [**Female First Name (un) **] done, CXR okay, heparin held for procedure, then restarted
   Hypotensive to 70s/40s overnight, Lasix gtt stopped, had received PM
   Metoprolol dose.  Got 2 X 250ml fluid bolus with little effect.
   Non-invasive BPs in the 120s with a-line [**Location (un) 118**] in 70s-80s, MAPs in
   mid-50s - low60s.  Improved in early morning.
   Spoke with [**First Name9 (NamePattern2) 1757**] [**Name (NI) 596**] on the phone - would like to talk to
   attending today (she is a nurse) regarding questions she has.
 BLOOD CULTURED - At [**2105-10-1**] 09:24 AM
   1 set via left midline and 1 set peripheral
 URINE CULTURE - At [**2105-10-1**] 09:24 AM
 THORACENTESIS - At [**2105-10-1**] 02:14 PM
 EKG - At [**2105-10-2**] 12:15 AM
 FEVER - 101.7
F - [**2105-10-1**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2105-9-30**] 10:24 PM
   Vancomycin - [**2105-10-1**] 08:30 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2105-10-1**] 06:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-2**] 04:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.1
C (98.8
   HR: 115 (102 - 124) bpm
   BP: 129/68(88) {73/45(53) - 136/80(100)} mmHg
   RR: 14 (9 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  3,011 mL
                                                                    254 mL
   PO:
             TF:
                                                                    840 mL
                                                                    149 mL
   IVF:
                                                                  1,551 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  2,016 mL
                                                                    147 mL
   Urine:
                                                                  1,166 mL
                                                                    147 mL
   NG:
   Stool:
   Drains:
                                                                    250 mL
   Balance:
                                                                    995 mL
                                                                    107 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 303 (303 - 518) mL
   PS : 14 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.47/33/128/23/1
   Ve: 10.6 L/min
   PaO2 / FiO2: 320
   Physical Examination
   GEN:  Pt. intubated.  Opens eyes to voice, able to follow simple
   commands and is able to move all limbs except right UE.
   HEENT:  NC/AT, looks comfortable.
   CV:  RRR, nl S1 and S2 without murmur
 though limited exam due to
   upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS. Rhonchi in anterior lung fields, L>R with
   diminished breath sounds in bases.
   ABD:  Soft, ND/NT, BS+
   EXT:  3+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Sedated. Unable to fully assess
   Labs / Radiology
   600 K/uL
   7.7 g/dL
   114 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.5 mEq/L
   19 mg/dL
   103 mEq/L
   134 mEq/L
   22.3 %
   9.5 K/uL
        [image002.jpg]
                            [**2105-9-29**]  09:30 AM
                            [**2105-9-29**]  02:49 PM
                            [**2105-9-30**]  03:03 AM
                            [**2105-9-30**]  05:07 AM
                            [**2105-9-30**]  01:05 PM
                            [**2105-10-1**]  02:35 AM
                            [**2105-10-1**]  02:48 AM
                            [**2105-10-1**]  06:43 AM
                            [**2105-10-1**]  05:50 PM
                            [**2105-10-2**]  02:45 AM
   WBC
   13.7
   12.9
   9.5
   Hct
   25.4
   24.6
   22.3
   Plt
   549
   602
   600
   Cr
   0.6
   0.7
   0.8
   0.8
   0.7
   0.8
   TCO2
   27
   28
   26
   25
   Glucose
   121
   122
   144
   115
   119
   114
   Other labs: PT / PTT / INR:15.5/71.6/1.4, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:32/23, Alk Phos / T Bili:123/0.4,
   Amylase / Lipase:22/16, Differential-Neuts:88.8 %, Lymph:7.6 %,
   Mono:2.5 %, Eos:0.9 %, Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL,
   LDH:195 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Now intubated. ABG with mild alkalosis on
   minimal vent settings.  Wean vent settings as tolerated, Daily RSBI and
   SBT with sedation holidays although will need to optimize pulmonary
   status first.  Pt is still near 9 L positive for fluid status.
   - Abx coverage limited to Vanc alone for 14 day course.
   - Diurese: resuming Lasix drip with goal of -1L today, [**Hospital1 **] lytes
   - Bedside ultrasound to eval pulmonary effusions and consider
   thoracentesis.
   # Aortic Dissection: Etiology likely rupture of known aneurysm.
   - Not operative candidate. Will re-consult CT [**Doctor First Name 91**] if pt extubated, MS
   improves
   - Maintain SBP 100-120. Titrate up Metoprolol as needed to maintain SBP
   and use esmolol only id SBP persistently elevated despite metoprolol.
   Follow trend in BP to tailor Metoprolol accordingly.
   - Q4H Neuro checks as able
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. re-intubated for imaging
   studies and remains vent dependent. LP negative for infxn. Mental
   status improving.  Neuro following, their recs appreciated.
   - started ASA for CVA + heparin for potential thromboembolic disease
   holding briefly today for thoracentesis.
   - Follow-up neuro recs
 EEG once infection resolves.
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently. -
   - Started Heparin gtt, no Coumadin for now pending consideration of
   potential aortic dissection repair
   - Metoprolol 75mg PO 6 am, 2 pm; 50 mg PO 10 pm
   #Fever: Pt spiked fever again [**9-30**]. Sputum cx growing MRSA.
   -          Follow up blood, sputum, urine and stool cxs, and nasal
   swab.
   -          Thoracentesis for pleural effusion analysis.
   #UE DVT: UE>LE edema, likely [**1-3**] to DVT.
   -          Continue diuresis, goal negative 1L
   -          Using Heparin gtt, holding off from coumadin.
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Enalapril and PO metoprolol to achieve a goal SBP
   100-120.
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Metoprolol and ASA.
   F: Monitor UOP
 with a goal of net diuresis as she is 9.5 liters
   positive for stay.
   E: Replete lytes prn. Check pm lytes
   N: Cont. tubefeeds via Dobhoff tube per nutrition recs.
   Access:  A line placed, pt has midline LUE
 if infectious status
   changes, will consider pulling all lines.
   Prophylaxis: SCDs, heparin gtt (holding for procedure), Lansoprazole,
   bowel regimen PRN
   Dipo: Ongoing discussion with family to assess possibility of trach &
   goals of care.
   CODE: Full Code.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-9-28**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-10-03 05:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Episodes of hypotension and hypertension cont. treated with oral and
   IV metoprolol PRN
   - Following pleural fluid cytology
   - Vanc dosing changed
   - NIF = -15, -20
   - ECHO: effusion is minimal and study is o/w normal
   - Family meeting with husband
   - PM Hct at 1700 = 24.3
 EKG - At [**2105-10-2**] 11:09 AM
 TRANSTHORACIC ECHO - At [**2105-10-2**] 01:17 PM
 FEVER - 102.0
F - [**2105-10-2**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2105-9-30**] 10:24 PM
   Vancomycin - [**2105-10-1**] 08:30 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2105-10-3**] 12:30 AM
   Metoprolol - [**2105-10-3**] 12:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-3**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.4
C (99.4
   HR: 101 (91 - 124) bpm
   BP: 103/62(76) {81/49(60) - 156/90(109)} mmHg
   RR: 23 (12 - 39) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  2,396 mL
                                                                    399 mL
   PO:
             TF:
                                                                    841 mL
                                                                    186 mL
   IVF:
                                                                  1,316 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                  1,077 mL
                                                                    280 mL
   Urine:
                                                                    777 mL
                                                                    280 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,319 mL
                                                                    119 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 169
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 26 cmH2O
   Compliance: 19 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/33/158/22/0
   NIF: -20 cmH2O
   Ve: 9.5 L/min
   PaO2 / FiO2: 395
   Physical Examination
   GEN:  Pt. intubated.  Opens eyes to voice, able to follow simple
   commands and is able to move all limbs except right UE.
   HEENT:  NC/AT, looks comfortable.
   CV:  RRR, nl S1 and S2 without murmur
 though limited exam due to
   upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS bilaterally. L>R with diminished breath sounds
   in bases.
   ABD:  Soft, ND/NT, BS+
   EXT:  3+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Sedated. Unable to fully assess
   Labs / Radiology
   594 K/uL
   7.1 g/dL
   115 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.9 mEq/L
   19 mg/dL
   105 mEq/L
   135 mEq/L
   21.5 %
   8.2 K/uL
        [image002.jpg]
                            [**2105-9-30**]  01:05 PM
                            [**2105-10-1**]  02:35 AM
                            [**2105-10-1**]  02:48 AM
                            [**2105-10-1**]  06:43 AM
                            [**2105-10-1**]  05:50 PM
                            [**2105-10-2**]  02:45 AM
                            [**2105-10-2**]  07:29 AM
                            [**2105-10-2**]  11:37 AM
                            [**2105-10-2**]  04:11 PM
                             [**2105-10-3**]  03:40 AM
   WBC
   12.9
   9.5
   8.2
   Hct
   24.6
   22.3
   24.3
   21.5
   Plt
   [**Telephone/Fax (3) 2291**]
   Cr
   0.8
   0.8
   0.7
   0.8
   0.7
   TCO2
   26
   25
   26
   24
   Glucose
   144
   115
   119
   114
   115
   Other labs: PT / PTT / INR:15.8/74.5/1.4, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:32/23, Alk Phos / T Bili:123/0.4,
   Amylase / Lipase:22/16, Differential-Neuts:88.8 %, Lymph:7.6 %,
   Mono:2.5 %, Eos:0.9 %, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL,
   LDH:195 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Now intubated. ABG with mild alkalosis on
   minimal vent settings.  Wean vent settings as tolerated, Daily RSBI and
   SBT with sedation holidays although will need to optimize pulmonary
   status first.  Pt is still near 9 L positive for fluid status.
   - Abx coverage limited to Vanc alone for 14 day course, now on day 10.
   - Diurese: resuming Lasix drip with goal of -1L today, [**Hospital1 **] lytes
   - Follow up cytology.
   - Obtain NIF
   # Aortic Dissection: Etiology likely dissection of known aortic
   aneurysm. Not operative candidate. Will re-consult CT [**Doctor First Name 91**] if pt
   extubated, MS improves
   - Maintain SBP 100-120. Titrate up Metoprolol as needed to maintain SBP
   and use esmolol only id SBP persistently elevated despite metoprolol.
   Follow trend in BP to tailor Metoprolol accordingly.
   - Q4H Neuro checks as able
   - Obtain rpt echo to evaluate pericardial effusions.
   - Obtain PM HCT.
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. re-intubated for imaging
   studies and remains vent dependent. LP negative for infxn. Mental
   status improving.  Neuro following, their recs appreciated.
   - Started ASA for CVA + heparin for potential thromboembolic disease.
   - Follow-up neuro recs
 EEG once infection resolves.
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently. -
   - Started Heparin gtt, no Coumadin for now pending consideration of
   potential aortic dissection repair
   - Metoprolol scaling back due to episodes of hypotension.
   #Fever: Pt spiked fever again [**10-1**]. Sputum cx growing MRSA.
   -          Follow up blood, sputum, urine and stool cxs, and nasal
   swab, pleural effusion culture.
   -          Culturing blood QOD.
   #UE DVT: UE>LE edema, likely [**1-3**] to DVT.
   -          Using Heparin gtt, holding off from coumadin.
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Enalapril and PO metoprolol to achieve a goal SBP
   100-120.
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Metoprolol and ASA.
   F: Monitor UOP
 episodes of hypotension are .
   E: Replete lytes prn. Check pm lytes
   N: Cont. tubefeeds via Dobhoff tube per nutrition recs.
   Access:  A line placed, pt has midline LUE
 if infectious status
   changes, will consider pulling all lines.
   Prophylaxis: SCDs, heparin gtt (holding for procedure), Lansoprazole,
   bowel regimen PRN
   Dipo: Ongoing discussion with family to assess possibility of trach &
   goals of care.
   CODE: Full Code.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-10-3**] 04:11 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-9-28**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-10-03 09:22:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo women with aortic dissection, stroke, respiratory failure.
   Intubated originially for poor MS, but unable to wean.    Became
   hypotensive then hypertensive overight.  Has been persistently febrile.
   24 Hour Events:
 EKG - At [**2105-10-2**] 11:09 AM
 TRANSTHORACIC ECHO - At [**2105-10-2**] 01:17 PM
 FEVER - 102.0
F - [**2105-10-2**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2105-9-30**] 10:24 PM
   Vancomycin - [**2105-10-1**] 08:30 AM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Metoprolol - [**2105-10-3**] 12:35 AM
   Morphine Sulfate - [**2105-10-3**] 07:56 AM
   Lansoprazole (Prevacid) - [**2105-10-3**] 07:57 AM
   Other medications:
   gabapentin
   synthroid
   lidocaine
   asa
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-3**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.9
C (100.2
   HR: 119 (91 - 119) bpm
   BP: 150/84(109) {81/49(60) - 156/90(109)} mmHg
   RR: 28 (21 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  2,392 mL
                                                                    808 mL
   PO:
             TF:
                                                                    841 mL
                                                                    317 mL
   IVF:
                                                                  1,311 mL
                                                                    206 mL
   Blood products:
   Total out:
                                                                  1,077 mL
                                                                    390 mL
   Urine:
                                                                    777 mL
                                                                    390 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,315 mL
                                                                    418 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 169
   PIP: 25 cmH2O
   Plateau: 26 cmH2O
   Compliance: 19 cmH2O/mL
   SpO2: 98%
   ABG: 7.45/33/158/22/0
   NIF: -20 cmH2O
   Ve: 10.3 L/min
   PaO2 / FiO2: 395
   Physical Examination
   PERRL
   Lungs: Clear
   CV:  Regular Rate
   Abd: Soft
   Skin:  [**Location (un) **]
   Neurologic: Responds to voice, following commands, not moving right
   arm:
   Labs / Radiology
   7.1 g/dL
   594 K/uL
   115 mg/dL
   0.7 mg/dL
   22 mEq/L
   3.9 mEq/L
   19 mg/dL
   105 mEq/L
   135 mEq/L
   21.5 %
   8.2 K/uL
        [image002.jpg]
                            [**2105-10-1**]  02:35 AM
                            [**2105-10-1**]  02:48 AM
                            [**2105-10-1**]  06:43 AM
                            [**2105-10-1**]  05:50 PM
                            [**2105-10-2**]  02:45 AM
                            [**2105-10-2**]  07:29 AM
                            [**2105-10-2**]  11:37 AM
                            [**2105-10-2**]  04:11 PM
                             [**2105-10-3**]  03:40 AM
                             [**2105-10-3**]  05:12 AM
   WBC
   12.9
   9.5
   8.2
   Hct
   24.6
   22.3
   24.3
   21.5
   21.5
   Plt
   [**Telephone/Fax (3) 2291**]
   Cr
   0.8
   0.7
   0.8
   0.7
   TCO2
   26
   25
   26
   24
   Glucose
   115
   119
   114
   115
   Other labs: PT / PTT / INR:15.8/74.5/1.4, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:32/23, Alk Phos / T Bili:123/0.4,
   Amylase / Lipase:22/16, Differential-Neuts:88.8 %, Lymph:7.6 %,
   Mono:2.5 %, Eos:0.9 %, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL,
   LDH:195 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY: continue heparin
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):  Daily
   fevers, multiple cultures, no clear source.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  MRSA PNA on vancomycin.
    Poor Vt on weaning even with high levels of PS, suggestive of poor
   respiratory
   system compliance either due to chest wall, lungs or both.   Likely
   will require tracheostomy.
 HYPERTENSION, BENIGN
 AORTIC DISSECTION:  Tight BP control
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   Fluid balance:  Keep even.
   Anemia:  Follow Hct as it is drifting down.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-10-3**] 04:11 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-9-28**] 03:47 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2105-10-04 05:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - lasix drip off; lopressor 2.5 mg x 2 then evening metoprolol PO;
   tachycardic to 120s but good BP control
   - Dubhoff replaced
   - I/O goal net even
   - hct stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-10-3**] 08:50 PM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2105-10-3**] 07:57 AM
   Furosemide (Lasix) - [**2105-10-3**] 12:15 PM
   Metoprolol - [**2105-10-3**] 03:34 PM
   Lorazepam (Ativan) - [**2105-10-3**] 05:06 PM
   Morphine Sulfate - [**2105-10-3**] 05:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-4**] 05:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 122 (105 - 126) bpm
   BP: 85/52(62) {85/52(62) - 161/97(116)} mmHg
   RR: 28 (21 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,569 mL
                                                                    374 mL
   PO:
             TF:
                                                                    459 mL
                                                                    190 mL
   IVF:
                                                                    750 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  1,572 mL
                                                                    310 mL
   Urine:
                                                                  1,522 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -3 mL
                                                                     65 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   Plateau: 12 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 96%
   ABG: ///22/
   Ve: 11.5 L/min
   Physical Examination
   GEN:  Pt. intubated.  Opens eyes to voice, able to follow simple
   commands and is able to move all limbs except right UE.
   HEENT:  NC/AT, looks comfortable.
   CV:  RRR, nl S1 and S2 without murmur
 though limited exam due to
   upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS bilaterally. L>R with diminished breath sounds
   in bases.
   ABD:  Soft, ND/NT, BS+
   EXT:  3+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Sedated. Unable to fully assess
   Labs / Radiology
   620 K/uL
   7.4 g/dL
   110 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.0 mEq/L
   20 mg/dL
   104 mEq/L
   135 mEq/L
   21.2 %
   9.6 K/uL
        [image002.jpg]
                            [**2105-10-1**]  06:43 AM
                            [**2105-10-1**]  05:50 PM
                            [**2105-10-2**]  02:45 AM
                            [**2105-10-2**]  07:29 AM
                            [**2105-10-2**]  11:37 AM
                            [**2105-10-2**]  04:11 PM
                             [**2105-10-3**]  03:40 AM
                             [**2105-10-3**]  05:12 AM
                             [**2105-10-3**]  12:22 PM
                             [**2105-10-4**]  03:16 AM
   WBC
   9.5
   8.2
   9.6
   Hct
   22.3
   24.3
   21.5
   21.5
   21.8
   21.2
   Plt
   [**Telephone/Fax (3) 2322**]
   Cr
   0.7
   0.8
   0.7
   0.7
   TCO2
   25
   26
   24
   Glucose
   119
   114
   115
   110
   Other labs: PT / PTT / INR:15.9/78.8/1.4, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:3.6 mg/dL
   [**10-1**] - Sputum gram stain, coag+ Staph. aureus
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Intubated. ABG with mild alkalosis on minimal
   vent settings.  Wean vent settings as tolerated, Pt is still near 11 L
   positive for fluid status, however she has not been able to tolerate
   diuresis.  Pt. continues to fail PSV trials.
   - Abx coverage limited to Vanc alone for 14 day course, now on day 12.
   - Diuresis only enough to keep her net even = lasix PRN to achieve this
   goal.
   - Follow up cytology of pleural fluid.
   - Wean from vent as tolerated.
   # Aortic Dissection: Etiology likely dissection of known aortic
   aneurysm. Not operative candidate. Will re-consult CT [**Doctor First Name 91**] if pt
   extubated, and MS improves.
   - Maintain SBP 100-120. Titrate up Metoprolol as needed to maintain
   SBP, using small amounts of morphine and Tylenol to agitation and fever
   effects on BP.
   - Q4H Neuro checks as able
   - Hct stable; recheck before tomorrow morning only if concern for
   bleeding.
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. re-intubated for imaging
   studies and remains vent dependent. Mental status improving.  Neuro
   following, their recs appreciated.
   - Started ASA for CVA + heparin for potential thromboembolic disease,
   PAF and upper extremity DVT.
   - Follow-up neuro recs
 EEG once infection resolves.
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently.
   - Started Heparin gtt, no Coumadin for now pending consideration of
   potential aortic dissection repair
   - Metoprolol scaling back due to episodes of hypotension.
   #Fever: Pt spiked fever again [**10-2**]. Sputum cx growing MRSA.
   -          Follow up blood, sputum, urine and stool cxs, and nasal
   swab, pleural effusion culture.
   -          Culturing blood QOD
 will culture today.
   #UE DVT: UE>LE edema, likely [**1-3**] to DVT.
   -          Using Heparin gtt, holding off from coumadin.
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Enalapril and PO metoprolol to achieve a goal SBP
   100-120.
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Metoprolol and ASA.
   F: Monitor UOP
 diurese as able, try to maintain at least net even.
   E: Replete lytes prn. Check pm lytes
   N: Dubhoff replaced [**10-3**]; Cont. tubefeeds via Dobhoff tube per
   nutrition recs.
   Access:  A line placed, pt has midline LUE
 if infectious status
   changes, will consider pulling all lines.
   Prophylaxis: SCDs, heparin gtt (holding for procedure), Lansoprazole,
   bowel regimen PRN
   Dispo: Ongoing discussion with family to assess possibility of trach &
   goals of care.
   CODE: Full Code.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-10-3**] 10:37 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-9-28**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-10-04 09:36:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo women with respiratory failure and aortic dissection.
   24 Hour Events:
   Did not tolerate PSV trials.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-10-3**] 08:50 PM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2105-10-3**] 12:15 PM
   Metoprolol - [**2105-10-3**] 03:34 PM
   Lorazepam (Ativan) - [**2105-10-3**] 05:06 PM
   Morphine Sulfate - [**2105-10-3**] 05:06 PM
   Lansoprazole (Prevacid) - [**2105-10-4**] 08:07 AM
   Other medications:
   nerontin, synthroid, asa, omeprezole, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-4**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 35.7
C (96.3
   HR: 97 (97 - 126) bpm
   BP: 106/60(76) {77/50(59) - 161/97(116)} mmHg
   RR: 24 (21 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,562 mL
                                                                    666 mL
   PO:
             TF:
                                                                    459 mL
                                                                    328 mL
   IVF:
                                                                    743 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                  1,572 mL
                                                                    370 mL
   Urine:
                                                                  1,522 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -10 mL
                                                                    296 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 103
   PIP: 16 cmH2O
   Plateau: 12 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 98%
   ABG: ///22/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   620 K/uL
   110 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.0 mEq/L
   20 mg/dL
   104 mEq/L
   135 mEq/L
   21.2 %
   9.6 K/uL
        [image002.jpg]
                            [**2105-10-1**]  06:43 AM
                            [**2105-10-1**]  05:50 PM
                            [**2105-10-2**]  02:45 AM
                            [**2105-10-2**]  07:29 AM
                            [**2105-10-2**]  11:37 AM
                            [**2105-10-2**]  04:11 PM
                             [**2105-10-3**]  03:40 AM
                             [**2105-10-3**]  05:12 AM
                             [**2105-10-3**]  12:22 PM
                             [**2105-10-4**]  03:16 AM
   WBC
   9.5
   8.2
   9.6
   Hct
   22.3
   24.3
   21.5
   21.5
   21.8
   21.2
   Plt
   [**Telephone/Fax (3) 2322**]
   Cr
   0.7
   0.8
   0.7
   0.7
   TCO2
   25
   26
   24
   Glucose
   119
   114
   115
   110
   Other labs: PT / PTT / INR:15.9/78.8/1.4, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:32/23, Alk Phos / T Bili:123/0.4,
   Amylase / Lipase:22/16, Differential-Neuts:88.8 %, Lymph:7.6 %,
   Mono:2.5 %, Eos:0.9 %, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL,
   LDH:195 IU/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Microbiology: [**10-1**] Sputum Coag + staph
   Assessment and Plan
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  Try to wean to PSV today
   Anemia:  Follow Hct, has been stable at 21.
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 TACHYCARDIA, OTHER/AF with RVR:  better controlled with lopressor,
   currently in sinus
   Fluid goal: Net even
 AORTIC DISSECTION
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-10-3**] 10:37 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-9-28**] 03:47 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2105-10-05 05:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Got 20mg IV lasix at 3pm, 20mg IV lasix at 7pm, got Metoprolol at 9pm,
   and pressure dropped briefly and received 150cc NS.
   A-line and non-invasive on L leg continue to have discrepant BPs.
   Continues to be febrile, blood cultures drawn daily, urine culture
   obtained.
 URINE CULTURE - At [**2105-10-4**] 08:45 PM
 FEVER - 101.6
F - [**2105-10-4**] 08:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-10-4**] 09:00 PM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2105-10-4**] 08:07 AM
   Lorazepam (Ativan) - [**2105-10-4**] 04:06 PM
   Furosemide (Lasix) - [**2105-10-4**] 06:30 PM
   Morphine Sulfate - [**2105-10-4**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-5**] 05:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.4
C (99.4
   HR: 113 (95 - 117) bpm
   BP: 113/64(80) {69/46(54) - 142/84(102)} mmHg
   RR: 18 (18 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,757 mL
                                                                    296 mL
   PO:
             TF:
                                                                    693 mL
                                                                    178 mL
   IVF:
                                                                    899 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  1,485 mL
                                                                    100 mL
   Urine:
                                                                  1,485 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    272 mL
                                                                    196 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 453 (453 - 453) mL
   RR (Set): 14
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.47/34/103/25/1
   Ve: 7.9 L/min
   PaO2 / FiO2: 258
   Physical Examination
   GEN:  Pt. intubated.  Opens eyes to voice, able to follow simple
   commands and is able to move all limbs except right UE.
   HEENT:  NC/AT, looks comfortable.
   CV:  RRR, nl S1 and S2 without murmur
 though limited exam due to
   upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS bilaterally. L>R with diminished breath sounds
   in bases.
   ABD:  Soft, ND/NT, BS+
   EXT:  3+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Sedated. Unable to fully assess
   Labs / Radiology
   622 K/uL
   7.4 g/dL
   113 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.7 mEq/L
   24 mg/dL
   104 mEq/L
   135 mEq/L
   21.0 %
   7.9 K/uL
        [image002.jpg]
                            [**2105-10-2**]  02:45 AM
                            [**2105-10-2**]  07:29 AM
                            [**2105-10-2**]  11:37 AM
                            [**2105-10-2**]  04:11 PM
                             [**2105-10-3**]  03:40 AM
                             [**2105-10-3**]  05:12 AM
                             [**2105-10-3**]  12:22 PM
                             [**2105-10-4**]  03:16 AM
                             [**2105-10-5**]  03:40 AM
                             [**2105-10-5**]  04:04 AM
   WBC
   9.5
   8.2
   9.6
   7.9
   Hct
   22.3
   24.3
   21.5
   21.5
   21.8
   21.2
   21.0
   Plt
   [**Telephone/Fax (3) 2335**]22
   Cr
   0.8
   0.7
   0.7
   0.8
   TCO2
   26
   24
   25
   Glucose
   114
   115
   110
   113
   Other labs: PT / PTT / INR:15.9/82.8/1.4, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:32/23, Alk Phos / T Bili:123/0.4,
   Amylase / Lipase:22/16, Differential-Neuts:88.8 %, Lymph:7.6 %,
   Mono:2.5 %, Eos:0.9 %, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL,
   LDH:195 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Intubated. ABG with mild alkalosis on minimal
   vent settings.  Wean vent settings as tolerated, Pt is still near 11 L
   positive for fluid status, however she has not been able to tolerate
   diuresis.  Failure is mulitfactorial in the setting of volume overload,
   respiratory muscle weakness, infection.
   - Abx coverage limited to Vanc alone for 14 day course, now on day 13.
   Will get 1 more dose tomorrow.
   - Diuresis only enough to keep her net even = lasix PRN to achieve this
   goal.
   - Follow up cytology of pleural fluid.
   - Consider trach and g-tube given lack of ability to wean from vent and
   likely respiratory muscle weakness.  Will discuss with family today.
   # Aortic Dissection: Etiology likely dissection of known aortic
   aneurysm. Not operative candidate. Will re-consult CT [**Doctor First Name 91**] if pt
   Extubated and clinical status improves.
   - Maintain SBP 100-120. Titrate up Metoprolol as needed to maintain
   SBP, using small amounts of morphine and Tylenol to agitation and fever
   effects on BP.
   - Q4H Neuro checks as able
   - Transfuse 1 unit PRBCs, although unlikely to be actively bleeding at
   this time.
   - will use non-invasive BPs for monitoring of blood pressure and NOT
   a-line
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. re-intubated for imaging
   studies and remains vent dependent. Mental status improving.  Neuro
   following, their recs appreciated.
   - Started ASA for CVA + heparin for potential thromboembolic disease,
   PAF and upper extremity DVT.
   - Follow-up neuro recs
 EEG once infection resolves.
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently.
   - Started Heparin gtt, no Coumadin for now pending consideration of
   potential aortic dissection repair
   - Metoprolol scaling back due to episodes of hypotension.  Getting
   Metoprolol 25mg TID as tolerated by BP.
   #Fever: Pt spiked fever again [**10-2**]. Sputum cx growing MRSA.  Unclear
   other source of infection.  Possibly related to Vancomycin.  Will get 1
   more dose abx tomorrow.  Only cultures positive thus far are MRSA in
   sputum.
   - Follow up blood, sputum, urine and stool cxs, and nasal swab, pleural
   effusion culture.
   - Culturing blood QOD.
   - recheck TSH today
   #UE DVT: UE>LE edema, likely [**1-3**] to DVT.
   -          Using Heparin gtt, holding off from coumadin.
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Enalapril and PO metoprolol to achieve a goal SBP
   100-120.
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Metoprolol and ASA.
   F: Monitor UOP
 diurese as able, try to maintain at least net even.
   E: Replete lytes prn.
   N: Dubhoff replaced [**10-3**]; Cont. tubefeeds via Dobhoff tube per
   nutrition recs.
   Access:  A line placed, pt has midline LUE
 if infectious status
   changes, will consider pulling all lines.
   Prophylaxis: SCDs, heparin gtt (holding for procedure), Lansoprazole,
   bowel regimen PRN
   Dispo: Will discuss trach and g-tube with family.
   CODE: Full Code
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-10-5**] 01:39 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-9-28**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-10-06 04:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt had an episode of diapheresis and low UOP in the morning which
   improved with blood. PRBCs consent and transfused one unit.
   Dr. [**Last Name (STitle) 749**] met with family meeting to discuss Trach and PEG and family
   would like to wait 24-48 hours to attempt to wean.
   TSH was checked and was 9.2.
   Pt tolerated PS during day and overnight.  Became hypertensive and was
   put back on AC this morning.  Hypertension resolved with AC and
   morphine.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-10-5**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2105-10-5**] 08:30 PM
   Lorazepam (Ativan) - [**2105-10-6**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-6**] 04:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 102 (99 - 117) bpm
   BP: 138/83(102) {77/55(58) - 157/95(117)} mmHg
   RR: 30 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  2,256 mL
                                                                    298 mL
   PO:
             TF:
                                                                    842 mL
                                                                    156 mL
   IVF:
                                                                    992 mL
                                                                    102 mL
   Blood products:
                                                                    282 mL
   Total out:
                                                                  1,035 mL
                                                                    135 mL
   Urine:
                                                                    635 mL
                                                                    135 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,221 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 384 (361 - 478) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.43/37/125/21/1
   Ve: 7.9 L/min
   PaO2 / FiO2: 313
   Physical Examination
   GEN:  Pt. intubated.  Opens eyes to voice, able to follow simple
   commands and is able to move all limbs except right UE.
   HEENT:  NC/AT, looks comfortable.
   CV:  RRR, nl S1 and S2 without murmur
 though limited exam due to
   upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS bilaterally. L>R with diminished breath sounds
   in bases.
   ABD:  Soft, ND/NT, BS+
   EXT:  3+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Sedated. Unable to fully assess
   Labs / Radiology
   609 K/uL
   7.9 g/dL
   122 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.5 mEq/L
   20 mg/dL
   104 mEq/L
   135 mEq/L
   23.2 %
   7.2 K/uL
        [image002.jpg]
                             [**2105-10-3**]  03:40 AM
                             [**2105-10-3**]  05:12 AM
                             [**2105-10-3**]  12:22 PM
                             [**2105-10-4**]  03:16 AM
                             [**2105-10-5**]  03:40 AM
                             [**2105-10-5**]  04:04 AM
                             [**2105-10-5**]  09:06 AM
                             [**2105-10-5**]  02:48 PM
                             [**2105-10-6**]  03:19 AM
                             [**2105-10-6**]  03:53 AM
   WBC
   8.2
   9.6
   7.9
   7.2
   Hct
   21.5
   21.5
   21.8
   21.2
   21.0
   23.7
   23.2
   Plt
   594
   620
   622
   609
   Cr
   0.7
   0.7
   0.8
   TCO2
   25
   25
   25
   Glucose
   115
   110
   113
   122
   Other labs: PT / PTT / INR:15.5/71.7/1.4, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:32/23, Alk Phos / T Bili:123/0.4,
   Amylase / Lipase:22/16, Differential-Neuts:74.3 %, Lymph:15.5 %,
   Mono:8.1 %, Eos:1.7 %, Lactic Acid:0.9 mmol/L, Albumin:2.2 g/dL,
   LDH:195 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Intubated. ABG with mild alkalosis on minimal
   vent settings.  Wean vent settings as tolerated, Pt is still near 11 L
   positive for fluid status, however she has not been able to tolerate
   diuresis.  Failure is mulitfactorial in the setting of volume overload,
   respiratory muscle weakness, infection.
   - Last dose of Vancomycin today for MRSA in sputum; although likely she
   is colonized.
   - Will start lasix drip to attempt diruesis today in the setting of
   hypertension
   - Consider trach and g-tube given lack of ability to wean from vent and
   likely respiratory muscle weakness.  Will discuss with family today.
   - Will attempt to wean vent settings to SBT today to assess abiltity to
   breathe off vent.
   # Aortic Dissection: Etiology likely dissection of known aortic
   aneurysm. Not operative candidate. Will re-consult CT [**Doctor First Name 91**] if pt
   extubated and clinical status improves.
   - Maintain SBP 100-120. Titrate up Metoprolol as needed to maintain
   SBP, using small amounts of morphine and Tylenol to agitation and fever
   effects on BP.
   - Q4H Neuro checks as able
   - Metoprolol is 37.5mg PO TID
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. re-intubated for imaging
   studies and remains vent dependent. Mental status improving.  Neuro
   following, their recs appreciated.
   - Started ASA for CVA + heparin for potential thromboembolic disease,
   PAF and upper extremity DVT.
   - Follow-up neuro recs
 EEG once infection resolves.
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently.
   - Started Heparin gtt, no Coumadin for now pending consideration of
   potential aortic dissection repair
   -  Getting Metoprolol 37.5 mg TID as tolerated by BP.
   #Fever: Pt
s fever curve appears to be improving although still having
   low-grade fevers. Sputum cx growing MRSA.  Unclear other source of
   infection.  Possibly related to Vancomycin.  Will get 1 more dose abx
   today and no more Vancomycin tomorrow.  Only cultures positive thus far
   are MRSA in sputum.
   - Continue to follow cultures
   - Culturing blood QOD.
   #UE DVT: UE>LE edema, likely [**1-3**] to DVT.
   -          Using Heparin gtt, holding off from coumadin.
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Enalapril and PO metoprolol to achieve a goal SBP
   100-120.
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness; elevated today and
   will check free T4
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  History of
   abnormal nuclear stress testing.  On Metoprolol and ASA.
   F: Monitor UOP
 diurese as able, try to maintain at least net even.
   E: Replete lytes prn.
   N: Dubhoff replaced [**10-3**]; Cont. tubefeeds via Dobhoff tube per
   nutrition recs.
   Access:  A line placed, pt has midline LUE
 if infectious status
   changes, will consider pulling all lines.
   Prophylaxis: SCDs, heparin gtt (holding for procedure), Lansoprazole,
   bowel regimen PRN
   Dispo: Will discuss trach and g-tube with family.
   CODE: Full Code
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-10-6**] 01:36 AM 35 mL/hour
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-9-28**] 03:47 PM

2105-10-07 05:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Failed vent weaning trial
   - Vanc stopped after pm dose
   - I/O goal: even to -500 cc (tolerated 8mg/hr of lasix for awhile)
   - Tube feeds restarted
   - Stool for C. diff sent
   - Fever, low urine output: with the following cultures sent.
 SPUTUM CULTURE - At [**2105-10-6**] 03:02 PM
 STOOL CULTURE - At [**2105-10-6**] 05:37 PM
   c dif
 FEVER - 102.4
F - [**2105-10-7**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-10-6**] 08:00 PM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Metoprolol - [**2105-10-6**] 02:30 PM
   Lorazepam (Ativan) - [**2105-10-6**] 08:30 PM
   Morphine Sulfate - [**2105-10-7**] 04:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-7**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 39.1
C (102.4
   HR: 126 (103 - 126) bpm
   BP: 104/69(81) {91/59(71) - 158/99(120)} mmHg
   RR: 28 (16 - 28) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,763 mL
                                                                    400 mL
   PO:
             TF:
                                                                    841 mL
                                                                    206 mL
   IVF:
                                                                    653 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  2,280 mL
                                                                    705 mL
   Urine:
                                                                  2,080 mL
                                                                    705 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                   -517 mL
                                                                   -305 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 365 (354 - 365) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: 7.45/34/130/25/0
   Ve: 12.3 L/min
   PaO2 / FiO2: 325
   Physical Examination
   GEN:  Pt. intubated.  Opens eyes to voice, able to follow simple
   commands and is able to move all limbs except right UE.
   HEENT:  NC/AT, looks comfortable.
   CV:  RRR, nl S1 and S2 without murmur
 though limited exam due to
   upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS bilaterally. L>R with diminished breath sounds
   in bases.
   ABD:  Soft, ND/NT, BS+
   EXT:  3+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Sedated. Unable to fully assess
   Labs / Radiology
   657 K/uL
   8.5 g/dL
   128 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.0 mEq/L
   16 mg/dL
   102 mEq/L
   135 mEq/L
   24.7 %
   8.3 K/uL
        [image002.jpg]
                             [**2105-10-4**]  03:16 AM
                             [**2105-10-5**]  03:40 AM
                             [**2105-10-5**]  04:04 AM
                             [**2105-10-5**]  09:06 AM
                             [**2105-10-5**]  02:48 PM
                             [**2105-10-6**]  03:19 AM
                             [**2105-10-6**]  03:53 AM
                             [**2105-10-6**]  12:46 PM
                             [**2105-10-6**]  05:49 PM
                             [**2105-10-7**]  03:23 AM
   WBC
   9.6
   7.9
   7.2
   8.3
   Hct
   21.2
   21.0
   23.7
   23.2
   24.7
   Plt
   [**Telephone/Fax (3) 2376**]57
   Cr
   0.7
   0.8
   0.6
   0.6
   0.6
   TCO2
   25
   25
   25
   24
   Glucose
   110
   113
   122
   126
   128
   Other labs: PT / PTT / INR:15.8/60.1/1.4, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:32/23, Alk Phos / T Bili:123/0.4,
   Amylase / Lipase:22/16, Differential-Neuts:74.3 %, Lymph:15.5 %,
   Mono:8.1 %, Eos:1.7 %, Lactic Acid:1.0 mmol/L, Albumin:2.2 g/dL,
   LDH:195 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Intubated. Wean vent settings as tolerated, Pt
   is still near 11 L positive for fluid status, however she has not been
   able to tolerate diuresis.  Failure is mulitfactorial in the setting of
   volume overload, respiratory muscle weakness, possible infection.
   - Stopped lasix drip due to periods of hypotension, and will attempt to
   diurese gently and as tolerated.
   - Cont. discussions with family re: trach and g-tube given lack of
   ability to wean from vent and likely respiratory muscle weakness.
   - Will attempt to wean vent settings to SBT today to assess ability to
   breathe off vent.
   - Obtain another NIF and trail on PS.
   # Aortic Dissection: Etiology likely dissection of known aortic
   aneurysm. Not operative candidate. Will re-consult CT [**Doctor First Name 91**] if pt
   extubated and clinical status improves.
   - Maintain SBP 100-120. Using metoprolol, small amounts of morphine and
   Tylenol to mitigate effects of agitation and fever on BP.
   - Q4H Neuro checks as able
   - Metoprolol is 37.5mg PO TID with holding parameters and PRN doses in
   order to control breakthrough hypertension.
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. intubated for imaging
   studies and remains vent dependent. Mental status continues to
   improve.
   - Started ASA + heparin for potential thromboembolic disease, PAF and
   upper extremity DVT.
   - Follow-up neuro recs
 consider EEG once infection resolves.
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently.
   - Started Heparin gtt, no Coumadin for now pending consideration of
   potential aortic dissection repair, and other procedures including
   tracheostomy and PEG.
   - Getting Metoprolol 37.5 mg TID as tolerated by BP.
   #Fever: Pt
s fever curve appears to be improving although still having
   low-grade fevers. Sputum cx growing MRSA.  Unclear other source of
   infection.  Possibly related to Vancomycin.  Will get 1 more dose abx
   today and no more Vancomycin tomorrow.  Only cultures positive thus far
   are MRSA in sputum.
   - Continue to follow cultures
   - Obtain new sputum culture, LFTs, CBC w/ diff, CXR (consider
   thoracentesis if effusions have reaccumulated).
   - Consider sinus CT and/or RUQ u/s if no information from above
   studies.
   #UE DVT: UE>LE edema, likely [**1-3**] to DVT.
   - Using Heparin gtt, holding off from coumadin.
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Enalapril and PO metoprolol to achieve a goal SBP
   100-120.
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness; elevated today and
   will check free T4
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  Hx of abnl
   nuclear stress testing.
   -  On Metoprolol and ASA.
   F: Monitor UOP
 diurese as able, try to maintain at least net even.
   E: Replete lytes prn.
   N: Dubhoff replaced [**10-3**]; Cont. tubefeeds via Dobhoff tube per
   nutrition recs. Will try to place NGT in order to prevent sinusitis.
   Access:  A line placed, pt has midline LUE
 if infectious status
   changes, will consider pulling all lines.
   Prophylaxis: SCDs, heparin gtt (holding for procedure), Lansoprazole,
   bowel regimen PRN
   Dispo: Will discuss trach and g-tube with family.
   CODE: Full Code
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-10-6**] 07:37 AM 35 mL/hour
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-9-28**] 03:47 PM

2105-10-08 05:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Repeat Sputum with GPCs
   -Metoprolol dose changed to 25 at 8 AM and 9 PM, 50 at 2pm
   -Got 10mg IV Diltiazem X 1 at 3pm for tachycardia and hypertension,
   became briefly hypotensive but improved.
   -Attempted to wean overnight with PS 10/5 but only tolerated for 1 hour
   with tachypnea, put back on PS 14/5
   IP consulted for trach and g-tube, going for procedure today
 URINE CULTURE - At [**2105-10-7**] 09:05 AM
 SPUTUM CULTURE - At [**2105-10-7**] 04:15 PM
 FEVER - 101.2
F - [**2105-10-7**] 08:00 PM, fevers at 3 AM last 2 days,
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-10-6**] 08:00 PM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2105-10-7**] 01:35 PM
   Morphine Sulfate - [**2105-10-7**] 08:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-8**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.3
C (101
   HR: 121 (99 - 124) bpm
   BP: 123/93(105) {77/50(59) - 180/116(140)} mmHg
   RR: 30 (14 - 33) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,846 mL
                                                                    358 mL
   PO:
             TF:
                                                                    841 mL
                                                                    203 mL
   IVF:
                                                                    616 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,871 mL
                                                                    185 mL
   Urine:
                                                                  1,871 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -25 mL
                                                                    173 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 439 (439 - 663) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   SpO2: 95%
   ABG: 7.48/36/90.[**Numeric Identifier 299**]/27/3
   NIF: -16 cmH2O
   Ve: 7.6 L/min
   PaO2 / FiO2: 225
   Physical Examination
   GEN:  Pt. intubated.  Opens eyes to voice, not following simple
   commands.
   HEENT:  NC/AT, looks comfortable.
   CV:  tachycardic,, nl S1 and S2 without murmur
 though limited exam
   due to upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS bilaterally. L>R with diminished breath sounds
   in bases.
   ABD:  Soft, ND/NT, BS+
   EXT:  2+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Sedated. Unable to fully assess
   Labs / Radiology
   623 K/uL
   8.3 g/dL
   119 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.5 mEq/L
   19 mg/dL
   102 mEq/L
   136 mEq/L
   24.0 %
   7.8 K/uL
        [image002.jpg]
   Micro- [**2105-10-6**] sputum- GPC clusters and chains, blood cx and urine cx
   pending.
   Radiology- OG tube placement correct, possible retrocardiac opacity,
   but difficult to assess.
                             [**2105-10-5**]  09:06 AM
                             [**2105-10-5**]  02:48 PM
                             [**2105-10-6**]  03:19 AM
                             [**2105-10-6**]  03:53 AM
                             [**2105-10-6**]  12:46 PM
                             [**2105-10-6**]  05:49 PM
                             [**2105-10-7**]  03:23 AM
                             [**2105-10-7**]  09:54 PM
                             [**2105-10-8**]  03:24 AM
                             [**2105-10-8**]  03:30 AM
   WBC
   7.2
   8.3
   7.8
   Hct
   23.7
   23.2
   24.7
   24.0
   Plt
   [**Telephone/Fax (3) 2414**]
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   TCO2
   25
   25
   24
   28
   Glucose
   122
   126
   128
   136
   119
   Other labs: PT / PTT / INR:15.9/82.4/1.4, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:28/25, Alk Phos / T Bili:137/0.3,
   Amylase / Lipase:22/16, Differential-Neuts:80.0 %, Lymph:13.2 %,
   Mono:5.2 %, Eos:1.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL,
   LDH:197 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Intubated. Failure is mulitfactorial in the
   setting of volume overload, respiratory muscle weakness, possible
   infection.  Neuromuscular weakness is likely myopathy/neuropathy of
   critical illness, much less likely myasthenia [**Last Name (un) 1209**], GBS, other
   myopathy.  Re: infection, the patient has positive sputum cx, but has
   already received appropriate antibiotics, and does not have worsening
   infiltrate
   -Wean vent settings as tolerated, Pt is still near 11 L positive for
   fluid status, however she has not been able to tolerate diuresis.  Hold
   Lasix for procedure, re-evaluate post-procedure
   Contact neuromuscular fellow re: patient with low NIF
   -IP today for Trach/peg
   #Fever: Pt
s fever curve appears to be improving although still having
   low-grade fevers. Only cultures positive thus far are MRSA in sputum.
   Finished Vancomycin 14 day course.  - Continue to follow cultures.  If
   still positive, may be colonized, and fevers [**1-3**] sinuses, drugs
   (gabapentin), thromboembolism, CVA, abdominal collection,
   cholecystitis.  Joint infection less likely, given absence of blood
   cx.
   -repeat amylase, lipase, LFTs
   -RUQ u/s if elevated Alk phos persists.
   -d/c neurontin
   - Obtain new sputum culture, LFTs, CBC w/ diff, CXR (consider
   thoracentesis if effusions have reaccumulated).
   - Consider sinus CT if fever persists after trach and peg.
   # Aortic Dissection: Etiology likely dissection of known aortic
   aneurysm. Not operative candidate. Will re-consult CT [**Doctor First Name 91**] if pt
   extubated and clinical status improves.
   - Maintain SBP 100-120. Using metoprolol, small amounts of morphine and
   Tylenol to mitigate effects of agitation and fever on BP.
   - Q4H Neuro checks as able
   - Metoprolol is 25 mg PO qAM and qPM, 50 mg PO at 2PM with holding
   parameters and PRN doses in order to control breakthrough hypertension.
   -hold 2 PM dose for surgery, with order for metoprolol IV
   peri-operatively if needd.
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. intubated for imaging
   studies and remains vent dependent. Mental status continues to
   improve.  Strokes were in pons
   - Started ASA + heparin for potential thromboembolic disease, PAF and
   upper extremity DVT.
   - Follow-up neuro recs
 consider EEG once infection resolves.
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently.
   - Started Heparin gtt, no Coumadin for now pending consideration of
   potential aortic dissection repair, and other procedures including
   tracheostomy and PEG.
   -Hold metoprolol for tracheostomy in anticipation of sedation induced
   hypotension, but write for metoprolol 5 mg IV prn peri-operatively if
   patient requires BP control.
   #UE DVT: UE>LE edema, likely [**1-3**] to DVT.
   - holding heparin peri-op, will restart afterwards.
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Enalapril and PO metoprolol to achieve a goal SBP
   100-120.
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness; elevated today and
   will check free T4
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  Hx of abnl
   nuclear stress testing.
   -  On Metoprolol and ASA.
   F: Monitor UOP
 diurese as able, try to maintain at least net even.
   E: Replete lytes prn.
   N: NGT placed, may be d/c
d following trach and PEG.  Feeds through
   tube following surgery.
   Access:  A line placed, pt has midline LUE
 if infectious status
   changes, will consider pulling all lines.
   Prophylaxis: SCDs, heparin gtt (holding for procedure), bowel regimen
   PRN
   -Lansoprazole switched to ranitidine 150 mg PO q daily (dose decreased
   [**1-3**] advanced age)
   Dispo: critically ill patient
   CODE: Full Code
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-10-7**] 07:34 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-9-28**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-10-09 05:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - IP for Trach and PEG reschedule for today
   - Neuromuscular eval/study for respiratory weakness today
   - D/C'd neurontin
   - Restart lasix after procedure.
   - Restart heparin at some point after procedure - follow up time course
   with surgery.
   - Fluids: +0.519L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2105-10-6**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2105-10-8**] 06:10 PM
   Lorazepam (Ativan) - [**2105-10-8**] 07:30 PM
   Morphine Sulfate - [**2105-10-9**] 03:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-9**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 101 (101 - 127) bpm
   BP: 102/69(80) {80/50(61) - 184/144(240)} mmHg
   RR: 14 (9 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 92.3 kg
   Height: 60 Inch
                  Total In:
                                                                  1,554 mL
                  PO:
                  TF:
                                                                    638 mL
   IVF:
                                                                    735 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    200 mL
   Urine:
                                                                  1,035 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    519 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 478 (478 - 652) mL
   PS : 14 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 79
   PIP: 21 cmH2O
   SpO2: 95%
   ABG: 7.44/40/98.[**Numeric Identifier 20**]//2
   Ve: 6.6 L/min
   PaO2 / FiO2: 245
   Physical Examination
   GEN:  Pt. intubated.  Opens eyes to voice, not following simple
   commands.
   HEENT:  NC/AT, looks comfortable.
   CV:  tachycardic,, nl S1 and S2 without murmur
 though limited exam
   due to upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS bilaterally. L>R with diminished breath sounds
   in bases.
   ABD:  Soft, ND/NT, BS+
   EXT:  2+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Sedated. Unable to fully assess
   Labs / Radiology
   569 K/uL
   8.4 g/dL
   119 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.5 mEq/L
   19 mg/dL
   102 mEq/L
   136 mEq/L
   25.0 %
   7.5 K/uL
        [image002.jpg]
                             [**2105-10-6**]  03:19 AM
                             [**2105-10-6**]  03:53 AM
                             [**2105-10-6**]  12:46 PM
                             [**2105-10-6**]  05:49 PM
                             [**2105-10-7**]  03:23 AM
                             [**2105-10-7**]  09:54 PM
                             [**2105-10-8**]  03:24 AM
                             [**2105-10-8**]  03:30 AM
                             [**2105-10-9**]  03:31 AM
                             [**2105-10-9**]  04:17 AM
   WBC
   7.2
   8.3
   7.8
   7.5
   Hct
   23.2
   24.7
   24.0
   25.0
   Plt
   [**Telephone/Fax (3) 2448**]69
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   TCO2
   25
   24
   28
   28
   Glucose
   122
   126
   128
   136
   119
   Other labs: PT / PTT / INR:15.4/34.1/1.4, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:25/22, Alk Phos / T Bili:128/0.3,
   Amylase / Lipase:19/14, Differential-Neuts:80.0 %, Lymph:13.2 %,
   Mono:5.2 %, Eos:1.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL,
   LDH:163 IU/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Intubated. Failure is mulitfactorial in the
   setting of volume overload, respiratory muscle weakness, possible
   infection.  Neuromuscular weakness is likely myopathy/neuropathy of
   critical illness, much less likely myasthenia [**Last Name (un) 1209**], GBS, other
   myopathy.  Re: infection, the patient has positive sputum cx, but has
   already received appropriate antibiotics, and does not have worsening
   infiltrate
   -Wean vent settings as tolerated, Pt is still near 11 L positive for
   fluid status, however she has not been able to tolerate diuresis.  Hold
   Lasix for procedure, re-evaluate post-procedure
   Contact neuromuscular fellow re: patient with low NIF
   -IP today for Trach/peg
   #Fever: Pt
s fever curve appears to be improving although still having
   low-grade fevers. Only cultures positive thus far are MRSA in sputum.
   Finished Vancomycin 14 day course.  - Continue to follow cultures.  If
   still positive, may be colonized, and fevers [**1-3**] sinuses, drugs
   (gabapentin), thromboembolism, CVA, abdominal collection,
   cholecystitis.  Joint infection less likely, given absence of blood
   cx.
   -repeat amylase, lipase, LFTs
   -RUQ u/s if elevated Alk phos persists.
   -d/c neurontin
   - Obtain new sputum culture, LFTs, CBC w/ diff, CXR (consider
   thoracentesis if effusions have reaccumulated).
   - Consider sinus CT if fever persists after trach and peg.
   # Aortic Dissection: Etiology likely dissection of known aortic
   aneurysm. Not operative candidate. Will re-consult CT [**Doctor First Name 91**] if pt
   extubated and clinical status improves.
   - Maintain SBP 100-120. Using metoprolol, small amounts of morphine and
   Tylenol to mitigate effects of agitation and fever on BP.
   - Q4H Neuro checks as able
   - Metoprolol is 25 mg PO qAM and qPM, 50 mg PO at 2PM with holding
   parameters and PRN doses in order to control breakthrough hypertension.
   -hold 2 PM dose for surgery, with order for metoprolol IV
   peri-operatively if needd.
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. intubated for imaging
   studies and remains vent dependent. Mental status continues to
   improve.  Strokes were in pons
   - Started ASA + heparin for potential thromboembolic disease, PAF and
   upper extremity DVT.
   - Follow-up neuro recs
 consider EEG once infection resolves.
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently.
   - Started Heparin gtt, no Coumadin for now pending consideration of
   potential aortic dissection repair, and other procedures including
   tracheostomy and PEG.
   -Hold metoprolol for tracheostomy in anticipation of sedation induced
   hypotension, but write for metoprolol 5 mg IV prn peri-operatively if
   patient requires BP control.
   #UE DVT: UE>LE edema, likely [**1-3**] to DVT.
   - holding heparin peri-op, will restart afterwards.
   # HTN: Unclear level of control as outpatient.  Per OMR on Cartia XT.
   - Will continue Enalapril and PO metoprolol to achieve a goal SBP
   100-120.
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness; elevated today and
   will check free T4
   - IV Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  Hx of abnl
   nuclear stress testing.
   -  On Metoprolol and ASA.
   F: Monitor UOP
 diurese as able, try to maintain at least net even.
   E: Replete lytes prn.
   N: NGT placed, may be d/c
d following trach and PEG.  Feeds through
   tube following surgery.
   Access:  A line placed, pt has midline LUE
 if infectious status
   changes, will consider pulling all lines.
   Prophylaxis: SCDs, heparin gtt (holding for procedure), bowel regimen
   PRN
   -Lansoprazole switched to ranitidine 150 mg PO q daily (dose decreased
   [**1-3**] advanced age)
   Dispo: critically ill patient
   CODE: Full Code
   ICU Care
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-9-28**] 03:47 PM

2105-10-10 05:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Yesterday, Trach & [** 1023**] placed
   Per neuromuscular fellow, EMG deferred until Monday to assess
   respiratory muscle weakness
   Getting IV Metoprolol as unable to use [** 1023**] for 24 hours
   Spoke with cardiac surgery recommend no further workup for aortic
   dissection, not operative candidate, no further studies needed
   Pt spiked temp of 102.9 axillary; pan cultured
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2105-10-9**] 02:00 PM
 [**Year (4 digits) 1023**] INSERTION - At [**2105-10-9**] 03:00 PM
 PAN CULTURE - At [**2105-10-9**] 10:15 PM
 FEVER - 102.9
F - [**2105-10-9**] 10:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Vecuronium - [**2105-10-9**] 02:10 PM
   Fentanyl - [**2105-10-9**] 02:30 PM
   Lorazepam (Ativan) - [**2105-10-9**] 06:10 PM
   Metoprolol - [**2105-10-10**] 12:15 AM
   Morphine Sulfate - [**2105-10-10**] 04:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-10**] 05:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.2
C (99
   HR: 102 (99 - 139) bpm
   BP: 136/81(103) {91/67(78) - 154/115(133)} mmHg
   RR: 18 (11 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                    367 mL
                                                                    122 mL
   PO:
             TF:
   IVF:
                                                                    307 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                    810 mL
                                                                    225 mL
   Urine:
                                                                    810 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -443 mL
                                                                   -103 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   Vt (Spontaneous): 469 (386 - 707) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 142
   PIP: 23 cmH2O
   SpO2: 95%
   ABG: ///23/
   Ve: 8.9 L/min
   Physical Examination
   GEN:  Pt. trached.  Opens eyes to voice, following simple commands.
   HEENT:  NC/AT, looks comfortable. Trach site looks c/d/i
   CV:  tachycardic,, nl S1 and S2 without murmur
 though limited exam
   due to upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS bilaterally. L>R with diminished breath sounds
   in bases.
   ABD:  Soft, ND/NT, BS+, [**Year (4 digits) **] site c/d/i
   EXT:  2+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Responds to voice, able to follow simple commands
   Labs / Radiology
   499 K/uL
   8.5 g/dL
   221 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   19 mg/dL
   100 mEq/L
   133 mEq/L
   25.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2105-10-6**]  12:46 PM
                             [**2105-10-6**]  05:49 PM
                             [**2105-10-7**]  03:23 AM
                             [**2105-10-7**]  09:54 PM
                             [**2105-10-8**]  03:24 AM
                             [**2105-10-8**]  03:30 AM
                             [**2105-10-9**]  03:31 AM
                             [**2105-10-9**]  04:17 AM
                             [**2105-10-9**]  05:45 PM
                             [**2105-10-10**]  03:29 AM
   WBC
   8.3
   7.8
   7.5
   6.5
   8.2
   Hct
   24.7
   24.0
   25.0
   25.6
   25.2
   Plt
   657
   623
   569
   576
   499
   Cr
   0.6
   0.6
   0.7
   0.6
   0.6
   0.6
   0.7
   TCO2
   24
   28
   28
   Glucose
   126
   128
   136
   119
   100
   100
   221
   Other labs: PT / PTT / INR:15.7/72.5/1.4, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:25/22, Alk Phos / T Bili:128/0.3,
   Amylase / Lipase:19/14, Differential-Neuts:80.0 %, Lymph:13.2 %,
   Mono:5.2 %, Eos:1.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL,
   LDH:163 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection.
   # Respiratory Failure: Now with tracheotomy without complications.
   Continues to require ventilatory support.  Possible muscle weakness
   given failed NIFs (-16).  Also has L pleural effusion which is
   contributing but not worsening.
   - restart lasix gtt for diuresis with goal -500 to -1L
   -Wean vent settings as tolerated
   - pt to have EMG early next week for respiratory muscle weakness per
   neuromuscular fellow
   # Fever: Only cultures positive thus far are MRSA in sputum.  Finished
   Vancomycin 14 day course.  - Continue to follow cultures.  If still
   positive, may be colonized, and fevers [**1-3**] sinuses, drugs,
   thromboembolism, CVA, abdominal collection although abdomen is benign.
   Joint infection less likely, given absence of blood cx.
   - neurontin stopped
   - f/u cultures
   - continue to trend
   # Aortic Dissection: Etiology likely dissection of known aortic
   aneurysm. Not operative candidate.
   - Maintain SBP 100-120. Using metoprolol, small amounts of morphine and
   Tylenol to mitigate effects of agitation and fever on BP.
   - Q4H Neuro checks as able
   - will restart Metoprolol PO when able to take POs
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. intubated for imaging
   studies and remains vent dependent. Mental status continues to
   improve.  Strokes were in pons
   - Started ASA + heparin for potential thromboembolic disease, PAF and
   upper extremity DVT.
   - Follow-up neuro recs
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently.
   - Started Heparin gtt, consider Coumadin in future
   #UE DVT: confirmed on U/S.
   - heparin gtt, consider starting Coumadin
   # HTN: Unclear level of control as outpatient.
   - Metoprolol 25mg PO BID
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness; elevated today and
   will check free T4
   - continue current dose of Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  Hx of abnl
   nuclear stress testing.
   -  On Metoprolol and ASA.
   F: Monitor UOP
 diurese as able, try to maintain at least net even or
   negative.
   E: Replete lytes prn.
   N: restart tube feeds 24 hours post [**Last Name (STitle) 1023**] placement
   Access:  A line placed, pt has midline LUE
 if infectious status
   changes, will consider pulling all lines.
   Prophylaxis: SCDs, heparin gtt, bowel regimen PRN, Ranitidine
   Dispo: will f/u with case management; pt is being screened for rehab
   currently
   CODE: Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-9-28**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 74F TAA/dissection, CVA, respiratory failure,
   AF c RVR, RUE DVT, volume overload and MRSA VAP c/b ongoing ventilator
   dependence, probable crit care myopathy/neuropathy, and fevers. BP more
   stable and fevers trending down
suspect central etiology. Trach and [**Year (4 digits) **]
   yesterday. Non-operative from dissection standpoint per cardiac
   surgery.
   Exam notable for Tm 102.9  Tc 99  HR 90
s,  99-139  BP143/91 RR 11-30
   Sat 95% ACV 500/14/5/40% WD F in NAD, awake and alert, follows
   commands, r hemiplegia, decreased L basilar BS, RR, tachy, soft + BS
   [**Last Name (LF) **], [**First Name3 (LF) **] site c/d/I, edematous, RUE> L, b/l LE
   Labs notable for WBC 8.2K, HCT 25.2, K+ 43.9, Cr 0.7, PTT 72.5.
   CXR trach in airway, L effusion stable, r clear
   Agree with plan to continue vent support with ACV. RSBI 130
s. Will
   repeat PSW/SBT tomorrow.  Remains very weak and will require slow
   wean.  Restart lasix drip for volume overload and acute on chronic
   diastolic CHF as BP allows. Restart heparin for DVT RUE / CVA / AF and
   initiate coumadin once stabilized given resent procedures (likely
   tomorrow). Fevers persist but appear to be slowly trending down,
   evaluation to date has been negative. Remains off antibx.  ? sinus
   infection related to OGT
 now out post trach/[**First Name3 (LF) 1023**], ? central
   fevers/autonomic dysregulation. Will continue close hemodynamic
   monitoring. BP remains labile w/ pain contibuting. Restart PO
   metoprolol and continue pain control with morphine. Neurologic status
   is stable following CVAs. Appreciate neuromuscular evaluation  re
   critical illness myopathy / neuropathy vs other cause with plan for EMG
   Monday. Continue rehab screening process, addressing goals of care for
   pt and family. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 45 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2105-10-10**] 06:56 PM ------

2105-10-11 05:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Getting morphine for pain associated with trach/peg
   Restarted lasix gtt
   Restarted tube feeds and PO meds
   Got Metoprolol 12.5mg PO X 1 at 1am for hypertension
   Requires replacement of A-line today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2105-10-10**] 02:21 PM
   Metoprolol - [**2105-10-10**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-11**] 04:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.5
   HR: 87 (87 - 116) bpm
   BP: 109/69(88) {109/69(88) - 156/99(124)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                    764 mL
                                                                    256 mL
   PO:
             TF:
                                                                    129 mL
                                                                    124 mL
   IVF:
                                                                    636 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  1,215 mL
                                                                    545 mL
   Urine:
                                                                  1,115 mL
                                                                    545 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -451 mL
                                                                   -289 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 95%
   ABG: ///27/
   Ve: 8.8 L/min
   Physical Examination: no change from yesterday
   GEN:  Pt. trached.  Opens eyes to voice, following simple commands.
   HEENT:  NC/AT, looks comfortable. Trach site looks c/d/i
   CV:  tachycardic,, nl S1 and S2 without murmur
 though limited exam
   due to upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS bilaterally. L>R with diminished breath sounds
   in bases.
   ABD:  Soft, ND/NT, BS+, peg site c/d/i
   EXT:  2+ upper extremity edema, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Responds to voice, able to follow simple commands
   Labs / Radiology
   495 K/uL
   8.4 g/dL
   166 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   19 mg/dL
   103 mEq/L
   137 mEq/L
   25.4 %
   6.4 K/uL
        [image002.jpg]
                             [**2105-10-7**]  03:23 AM
                             [**2105-10-7**]  09:54 PM
                             [**2105-10-8**]  03:24 AM
                             [**2105-10-8**]  03:30 AM
                             [**2105-10-9**]  03:31 AM
                             [**2105-10-9**]  04:17 AM
                             [**2105-10-9**]  05:45 PM
                             [**2105-10-10**]  03:29 AM
                             [**2105-10-10**]  06:40 PM
                             [**2105-10-11**]  03:00 AM
   WBC
   8.3
   7.8
   7.5
   6.5
   8.2
   6.4
   Hct
   24.7
   24.0
   25.0
   25.6
   25.2
   25.4
   Plt
   657
   623
   569
   576
   499
   495
   Cr
   0.6
   0.7
   0.6
   0.6
   0.6
   0.7
   0.6
   0.6
   TCO2
   28
   28
   Glucose
   128
   136
   119
   100
   100
   221
   108
   166
   Other labs: PT / PTT / INR:17.3/150.0/1.6, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:25/22, Alk Phos / T Bili:128/0.3,
   Amylase / Lipase:19/14, Differential-Neuts:80.0 %, Lymph:13.2 %,
   Mono:5.2 %, Eos:1.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL,
   LDH:163 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and
   thoracic aortic dissection; subsequently developed right UE DVT, and
   underwent procedures for a tracheostomy and PEG placement.
   # Respiratory Failure: Now with tracheotomy without complications.
   Continues to require ventilatory support.  Possible muscle weakness
   given failed NIFs (-16).  Also has L pleural effusion which may be
   contributing but not worsening.
   - Restart lasix gtt for diuresis with goal -500 to -1L
   - Wean vent settings as tolerated.
   - Pt to have EMG early next week for respiratory muscle weakness per
   neuromuscular fellow.
   # Fever: Only cultures positive thus far are MRSA in sputum.  Finished
   Vancomycin 14 day course. If still positive, may be colonized, and
   fevers [**1-3**] sinuses, drugs, thromboembolism, CVA, abdominal collection
   although abdomen is benign.  Joint infection less likely, given absence
   of blood cx.
   - Cultures continue to grow MRSA
 given that pt is afebrile, with a
   WBC count that is trending down, MRSA may represent colonization rather
   than a pathogen.
   - F/u cultures that are pending.
   - Continue to trend fevers and WBCs.
   # Aortic Dissection: Etiology likely dissection of known aortic
   aneurysm. Not an operative candidate.
   - Maintain SBP 100-120. Using Metoprolol, small amounts of morphine and
   Tylenol to mitigate effects of agitation and fever on BP.
   - Q4H Neuro checks as able
   - Will restart Metoprolol PO when able to take POs
   # AMS/CVA: Stable. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. intubated for imaging
   studies and remains vent dependent. Mental status continues to
   improve.  Strokes were in pons
   - Started ASA + heparin for potential thromboembolic disease, PAF and
   upper extremity DVT
 Will start coumadin today at 5mg bolus.  Will
   follow PT/INR daily, starting tomorrow.
   - Follow-up neuro recs
   - Use small doses of Ativan and Morphine to mildly sedate pt due to
   intubation and discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently.
   - Started Heparin gtt, consider Coumadin in future
   #UE DVT: confirmed on U/S.
   - heparin gtt, starting Coumadin
   # HTN: Unclear level of control as outpatient.
   - Metoprolol 25mg PO BID
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH would be altered in setting of acute illness; elevated today and
   will check free T4
   - continue current dose of Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  Hx of abnl
   nuclear stress testing.
   -  On Metoprolol and ASA.
   F: Monitor UOP
 diurese as able, try to maintain at least net even or
   negative.
   E: Replete lytes prn.
   N: Restart tube feeds 24 hours post PEG placement
   Access:  A line placed, pt has midline LUE
 if infectious status
   changes, will consider pulling all lines.
   Prophylaxis: SCDs, heparin gtt + coumadin, bowel regimen PRN,
   Ranitidine
   Dispo: Will f/u with case management on Monday; pt is being screened
   for rehab currently.
   CODE: Full Code
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-10-11**] 03:37 AM 25 mL/hour
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-9-28**] 03:47 PM

2105-10-12 05:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Cultures positive for MRSA - possible colonization given afibrility
   and decreasing WBC count.
   - Began transition over to Coumadin with first 5mg dose given last
   night
   - A-line re-placed over a wire.
   - EMG today to further evaluate her respiratory muscle weakness.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2105-10-11**] 08:39 AM
   Morphine Sulfate - [**2105-10-12**] 01:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-12**] 05:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 102 (84 - 106) bpm
   BP: 140/82(103) {95/61(76) - 144/90(110)} mmHg
   RR: 20 (14 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,783 mL
                                                                    463 mL
   PO:
             TF:
                                                                    751 mL
                                                                    175 mL
   IVF:
                                                                    706 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  2,345 mL
                                                                    720 mL
   Urine:
                                                                  2,315 mL
                                                                    720 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                   -562 mL
                                                                   -257 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 41%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   SpO2: 98%
   ABG: 7.51/38/130/28/7
   Ve: 6.4 L/min
   PaO2 / FiO2: 325
   Physical Examination
   GEN:  Pt. trached.  Opens eyes spontaneously, following simple
   commands.
   HEENT:  NC/AT, looks comfortable. Trach site looks c/d/i
   CV:  tachycardic,, nl S1 and S2 without murmur
 though limited exam
   due to upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS bilaterally. L>R with diminished breath sounds
   in bases.
   ABD:  Soft, ND, BS+, peg site c/d/i. Diffusely TTP.
   EXT:  2+ upper extremity edema R>L, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Responds to voice, able to follow simple commands
   Labs / Radiology
   440 K/uL
   8.3 g/dL
   119 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.7 mEq/L
   19 mg/dL
   103 mEq/L
   137 mEq/L
   24.4 %
   5.7 K/uL
        [image002.jpg]
                             [**2105-10-8**]  03:30 AM
                             [**2105-10-9**]  03:31 AM
                             [**2105-10-9**]  04:17 AM
                             [**2105-10-9**]  05:45 PM
                             [**2105-10-10**]  03:29 AM
                             [**2105-10-10**]  06:40 PM
                             [**2105-10-11**]  03:00 AM
                             [**2105-10-11**]  08:51 PM
                            [**2105-10-12**]  03:23 AM
                            [**2105-10-12**]  04:01 AM
   WBC
   7.5
   6.5
   8.2
   6.4
   5.7
   Hct
   25.0
   25.6
   25.2
   25.4
   24.4
   Plt
   569
   576
   499
   495
   440
   Cr
   0.6
   0.6
   0.7
   0.6
   0.6
   0.6
   TCO2
   28
   28
   31
   31
   Glucose
   100
   100
   221
   108
   166
   119
   Other labs: Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL, Lactate:
   1.02, free T4 0.8
   Micro: Urine Culture: neg, Blood culture: G+ cocci in clusters, sputum
   culture: Coag+ Staph.
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and type A
   thoracic aortic dissection.
   # Abdominal Pain: Patient 2d s/p PEG placement, now w/abdominal pain
   and diffuse TTP.
   -          Check KUB
   -          LFTs, amylase, lipase
   -          Lactate
   # Respiratory Failure: Now with tracheotomy without complications.
   Continues to require ventilatory support.  Possible muscle weakness
   given failed NIFs (-16).  Also has L pleural effusion which is
   contributing but not worsening.
   - restart lasix gtt for diuresis with goal -500 to -1L
   - Wean vent settings as tolerated
   - pt to have EMG today for respiratory muscle weakness per
   neuromuscular fellow
   # Fever: Only cultures positive thus far are MRSA in sputum.  Finished
   Vancomycin 14 day course.  - Continue to follow cultures.  If still
   positive, may be colonized, and fevers [**1-3**] sinuses, drugs,
   thromboembolism, CVA, abdominal collection although abdomen is benign.
   Joint infection less likely, given absence of blood cx.
   - blood cultures positive for G+ cocci
 to consider re-start
   Vancomycin
   - continue to follow sensitivities
   # Aortic Dissection: Etiology likely dissection of known aortic
   aneurysm. Not operative candidate.
   - Maintain SBP 100-120. Using metoprolol, small amounts of morphine and
   Tylenol to mitigate effects of agitation and fever on BP.
   - Q4H Neuro checks as able
   - will restart Metoprolol PO when able to take POs
   # AMS/CVA: Improved. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. intubated for imaging
   studies and remains vent dependent. Mental status continues to
   improve.  Strokes were in pons
   - Started ASA + heparin for potential thromboembolic disease, PAF and
   upper extremity DVT, now transitioning to coumadin
   - Follow-up neuro recs
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently.
   - On Heparin gtt, transitioning to Coumadin.
   #RUE DVT: confirmed on U/S.
   -          On Heparin gtt, transitioning to Coumadin
   -          Re-check coags in am
   # HTN: Unclear level of control as outpatient.
   - Metoprolol 25mg PO BID
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH elevated, free T4 low
   - increase dose of Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  Hx of abnl
   nuclear stress testing.
   -          On Metoprolol and ASA.
   # Depression: Patient expressing wish to die to some team members, has
   depressed affect
   -          social work consult
   F: Monitor UOP
 diurese as able, try to maintain at least net even or
   negative.
   E: Replete lytes prn.
   N: Tube feeds restarted.
   Access:  A line placed, pt has midline LUE
 if infectious status
   changes, will consider pulling all lines.
   Prophylaxis: SCDs, heparin gtt, bowel regimen PRN, Ranitidine
   Dispo: will f/u with case management; pt is being screened for rehab
   currently
   CODE: Full Code
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-10-11**] 10:45 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-10-11**] 08:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-10-12 12:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Ventilatory Associated Pneumonia
   Aortic Dissection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2105-10-11**] 08:30 PM
 ARTERIAL LINE - START [**2105-10-11**] 08:30 PM
   old line did not draw, new line place.  good waveform , positional to
   draw.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2105-10-12**] 02:30 AM
   Morphine Sulfate - [**2105-10-12**] 11:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2105-10-12**] 12:39 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98.1
   HR: 89 (84 - 105) bpm
   BP: 113/70(86) {95/61(76) - 144/88(110)} mmHg
   RR: 14 (13 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,782 mL
                                                                    978 mL
   PO:
             TF:
                                                                    751 mL
                                                                    424 mL
   IVF:
                                                                    706 mL
                                                                    414 mL
   Blood products:
   Total out:
                                                                  2,345 mL
                                                                  1,085 mL
   Urine:
                                                                  2,315 mL
                                                                  1,085 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                   -563 mL
                                                                   -107 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 14 cmH2O
   SpO2: 97%
   ABG: 7.51/38/130/28/7
   Ve: 7 L/min
   PaO2 / FiO2: 325
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Tender: Mild in LUQ
she has wince with palpation in all
   abdominal regions but also with distracting stimuli.  G-tube at 6cm
   depth by review of tube placement external
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   440 K/uL
   119 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.7 mEq/L
   19 mg/dL
   103 mEq/L
   137 mEq/L
   24.4 %
   5.7 K/uL
        [image002.jpg]
                             [**2105-10-8**]  03:30 AM
                             [**2105-10-9**]  03:31 AM
                             [**2105-10-9**]  04:17 AM
                             [**2105-10-9**]  05:45 PM
                             [**2105-10-10**]  03:29 AM
                             [**2105-10-10**]  06:40 PM
                             [**2105-10-11**]  03:00 AM
                             [**2105-10-11**]  08:51 PM
                            [**2105-10-12**]  03:23 AM
                            [**2105-10-12**]  04:01 AM
   WBC
   7.5
   6.5
   8.2
   6.4
   5.7
   Hct
   25.0
   25.6
   25.2
   25.4
   24.4
   Plt
   569
   576
   499
   495
   440
   Cr
   0.6
   0.6
   0.7
   0.6
   0.6
   0.6
   TCO2
   28
   28
   31
   31
   Glucose
   100
   100
   221
   108
   166
   119
   Other labs: PT / PTT / INR:16.2/84.0/1.4, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:25/22, Alk Phos / T Bili:128/0.3,
   Amylase / Lipase:19/14, Differential-Neuts:80.0 %, Lymph:13.2 %,
   Mono:5.2 %, Eos:1.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.4 g/dL,
   LDH:163 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: 7.51/38/130
   AG-6
   Microbiology: BC-Pending
   Sputum--Coag Pos Staph
   Assessment and Plan
   74 yo female with non-operable aortic dissection anc CVA and now with
   prolonged hospital course complicated by recurrent VAP and patient now
   is s/p tracheostomy with improvement in fever curve.
   Respiratory Failure-
   -Patient in CMV mode
   -Will move to PSV today with favorable pulmonary mechanics
   -EMG study to be checked
   Ventilatory Associated Pneumonia-
   -ABX to continue and will maintain follow up cultures
   Aortic Dissection-
   -Continue with BP control
   -Lopressor to continue
   CVA-
   -Coumadin started
   -D/C heparin when therapeutic
   -U/E DVT to be treated with anticoagulation as well
   Additional issues to be treated as discussed in the resident note of
   this day with which I agree.
 INEFFECTIVE COPING
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DEEP VENOUS THROMBOSIS (DVT), UPPER EXTREMITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ANXIETY
 HYPOKALEMIA (LOW POTASSIUM, HYPOPOTASSEMIA)
 .H/O MALNUTRITION
 OBSTRUCTIVE SLEEP APNEA (OSA)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 TACHYCARDIA, OTHER
 AORTIC DISSECTION
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 LEUKOCYTOSIS
   ICU Care
   Nutrition: Tube feeds to continue
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-10-11**] 08:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2105-10-13 05:03:00 Physician Resident Progress Note
Chief Complaint: [**Known lastname 2081**]
   -F/u EMG/ neuro-musc recs
   -KUB
   -LFTs/amylase/lipase/lactate
   -F/u social work recs
   -Blood cx had [**12-4**] cultures + for GPC
   24 Hour Events:
 BLOOD CULTURED - At [**2105-10-13**] 01:00 AM
   midline
 URINE CULTURE - At [**2105-10-13**] 01:00 AM
 SPUTUM CULTURE - At [**2105-10-13**] 01:15 AM
 FEVER - 101.1
F - [**2105-10-13**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2105-10-12**] 06:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-10-13**] 05:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.2
C (98.9
   HR: 105 (89 - 117) bpm
   BP: 111/72(85) {105/64(79) - 151/94(113)} mmHg
   RR: 22 (13 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 92.3 kg
   Height: 60 Inch
             Total In:
                                                                  1,873 mL
                                                                    333 mL
   PO:
             TF:
                                                                    841 mL
                                                                    176 mL
   IVF:
                                                                    711 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    425 mL
   Urine:
                                                                  2,105 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -232 mL
                                                                    -92 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 407 (407 - 532) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   SpO2: 97%
   ABG: 7.51/37/148/29/6
   Ve: 9 L/min
   PaO2 / FiO2: 370
   Physical Examination
   GEN:  Pt. trached.  Opens eyes spontaneously, following simple
   commands.
   HEENT:  NC/AT, looks comfortable. Trach site looks c/d/i
   CV:  tachycardic,, nl S1 and S2 without murmur
 though limited exam
   due to upper airway sounds. Heart sounds distant
   PULM: Coarse vented BS bilaterally. L>R with diminished breath sounds
   in bases.
   ABD:  Soft, ND, BS+, peg site c/d/i. Diffusely TTP.
   EXT:  2+ upper extremity edema R>L, 1+ lower extremity edema.
   Skin: no rashes or lesions noted.
   Neurologic: Responds to voice, able to follow simple commands
   Labs / Radiology
   419 K/uL
   8.2 g/dL
   125 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.1 mEq/L
   18 mg/dL
   100 mEq/L
   137 mEq/L
   24.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2105-10-9**]  05:45 PM
                             [**2105-10-10**]  03:29 AM
                             [**2105-10-10**]  06:40 PM
                             [**2105-10-11**]  03:00 AM
                             [**2105-10-11**]  08:51 PM
                            [**2105-10-12**]  03:23 AM
                            [**2105-10-12**]  04:01 AM
                            [**2105-10-12**]  04:57 PM
                            [**2105-10-13**]  03:40 AM
                            [**2105-10-13**]  03:48 AM
   WBC
   6.5
   8.2
   6.4
   5.7
   6.9
   Hct
   25.6
   25.2
   25.4
   24.4
   24.9
   Plt
   576
   499
   495
   440
   419
   Cr
   0.6
   0.7
   0.6
   0.6
   0.6
   0.6
   TCO2
   31
   31
   32
   31
   Glucose
   100
   221
   108
   166
   119
   125
   Other labs: PT / PTT / INR:16.9/53.5/1.5, CK / CKMB /
   Troponin-T:[**4-3**]/<0.01, ALT / AST:18/20, Alk Phos / T Bili:94/0.2,
   Amylase / Lipase:13/11, Differential-Neuts:80.0 %, Lymph:13.2 %,
   Mono:5.2 %, Eos:1.0 %, Lactic Acid:1.0 mmol/L, Albumin:2.3 g/dL,
   LDH:191 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   74 yo F, found down with AMS by husband, now with acute CVAs and type A
   thoracic aortic dissection.
   # Abdominal Pain: Patient 2d s/p PEG placement, now w/abdominal pain
   and diffuse TTP.
   -          Check KUB
   -          LFTs, amylase, lipase
   -          Lactate
   # Respiratory Failure: Now with tracheotomy without complications.
   Continues to require ventilatory support.  Possible muscle weakness
   given failed NIFs (-16).  Also has L pleural effusion which is
   contributing but not worsening.
   - restart lasix gtt for diuresis with goal -500 to -1L
   - Wean vent settings as tolerated
   - pt to have EMG today for respiratory muscle weakness per
   neuromuscular fellow
   # Fever: Only cultures positive thus far are MRSA in sputum.  Finished
   Vancomycin 14 day course.  - Continue to follow cultures.  If still
   positive, may be colonized, and fevers [**1-3**] sinuses, drugs,
   thromboembolism, CVA, abdominal collection although abdomen is benign.
   Joint infection less likely, given absence of blood cx.
   - blood cultures positive for G+ cocci
 to consider re-start
   Vancomycin
   - continue to follow sensitivities
   # Aortic Dissection: Etiology likely dissection of known aortic
   aneurysm. Not operative candidate.
   - Maintain SBP 100-120. Using metoprolol, small amounts of morphine and
   Tylenol to mitigate effects of agitation and fever on BP.
   - Q4H Neuro checks as able
   - will restart Metoprolol PO when able to take POs
   # AMS/CVA: Improved. Per neuro, AMS not explained by infarcts. Most
   likely multifactorial secondary to infection and bacteremia as well as
   multifocal infarcts and aortic dissection. Pt. intubated for imaging
   studies and remains vent dependent. Mental status continues to
   improve.  Strokes were in pons
   - Started ASA + heparin for potential thromboembolic disease, PAF and
   upper extremity DVT, now transitioning to coumadin
   - Follow-up neuro recs
   - Use small doses of Ativan to mildly sedate pt due to intubation and
   discomfort.
   # Afib with RVR: Pt has had episodes of uncontrolled tachycardia
   consistent with Afib with RVR but none recently.
   - On Heparin gtt, transitioning to Coumadin.
   #RUE DVT: confirmed on U/S.
   -          On Heparin gtt, transitioning to Coumadin
   -          Re-check coags in am
   # HTN: Unclear level of control as outpatient.
   - Metoprolol 25mg PO BID
   .
   # Hypothyroidism: On Levoxyl as an outpatient.  Will continue with
   regular dosing.
   - TSH elevated, free T4 low
   - increase dose of Levoxyl
   # CAD: With unclear history.  Followed by Dr. [**Last Name (STitle) 1829**].  Hx of abnl
   nuclear stress testing.
   -          On Metoprolol and ASA.
   # Depression: Patient expressing wish to die to some team members, has
   depressed affect
   -          social work consult
   F: Monitor UOP
 diurese as able, try to maintain at least net even or
   negative.
   E: Replete lytes prn.
   N: Tube feeds restarted.
   Access:  A line placed, pt has midline LUE
 if infectious status
   changes, will consider pulling all lines.
   Prophylaxis: SCDs, heparin gtt, bowel regimen PRN, Ranitidine
   Dispo: will f/u with case management; pt is being screened for rehab
   currently
   CODE: Full Code
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 TACHYCARDIA, OTHER
 AORTIC DISSECTION
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 LEUKOCYTOSIS
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2105-10-13**] 01:41 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2105-9-25**] 02:35 PM
   Arterial Line - [**2105-10-11**] 08:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: